2174-03-10 07:52:00 Physician Resident Progress Note
Chief Complaint: abdominal pain
   24 Hour Events:
   - Patient an ERCP at the bedside 1530 to 1615. Pt tolerated procedure
   well w/ no significant changes in VS or clinical status. Large bile
   leak was noted and stent placed in CBD.
   - Abdominal U/S to eval for abscess/fluid collection was a limited
   study d/t recent ERCP; however, no large ascites or perihepatic fluid
   collection noted in prelim report
   - Cordis removed and L subclavian line and A-line placed.
   - ID recommended Cefepime/Flagyl instead of Zosyn.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-9**] 02:20 PM
   Vancomycin - [**2174-3-9**] 08:05 PM
   Metronidazole - [**2174-3-9**] 08:05 PM
   Cefipime - [**2174-3-9**] 08:08 PM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-9**] 02:20 PM
   Famotidine (Pepcid) - [**2174-3-9**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-10**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 93 (82 - 107) bpm
   BP: 96/45(59) {96/39(56) - 109/47(66)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,672 mL
                                                                    126 mL
   PO:
             TF:
   IVF:
                                                                  1,672 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    270 mL
   Urine:
                                                                    830 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
                                                                    130 mL
                                                                     30 mL
   Balance:
                                                                    712 mL
                                                                   -144 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 360 (360 - 520) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 25 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/48/92.[**Numeric Identifier 491**]/28/1
   Ve: 9.1 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General: Intubated, mildly sedated, but opens eyes to command, slightly
   diaphoretic
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   rhonchi.
   CV: Distant heart sounds, difficult to auscultate, no murmurs
   appreciated
   Abdomen:  Markedly distended, bowel sounds present, moves when RUQ
   palpated. Incision site in RUQ covered with CDI dressing.  RUQ JP drain
   with yellow-brown drainage, no purulence.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   376 K/uL
   9.8 g/dL
   88 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.3 mEq/L
   15 mg/dL
   113 mEq/L
   150 mEq/L
   30.5 %
   23.1 K/uL
        [image002.jpg]
                             [**2174-3-9**]  01:14 PM
                             [**2174-3-9**]  09:48 PM
                             [**2174-3-10**]  04:37 AM
                             [**2174-3-10**]  04:52 AM
   WBC
   26.0
   23.1
   Hct
   30.2
   30.5
   Plt
   362
   376
   Cr
   1.1
   0.8
   TCO2
   29
   29
   Glucose
   73
   88
   Other labs: PT / PTT / INR:16.1/29.0/1.4, ALT / AST:14/23, Alk Phos / T
   Bili:62/0.7, Amylase / Lipase:[**Telephone/Fax (1) 11809**], Differential-Neuts:88.1 %,
   Band:0.0 %, Lymph:6.9 %, Mono:2.5 %, Eos:2.2 %, Lactic Acid:0.7 mmol/L,
   Albumin:3.3 g/dL, LDH:129 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.3
   mg/dL
   Imaging: RUQ U/S [**2174-3-9**]: Limited study; however, no large ascites or
   perihepatic fluid collection.
   CXR [**2174-3-9**]: ETT 4 cm above carina. Small bilateral pleural effusions
   and new right middle lobe atelactasis.
   Microbiology: [**2174-3-9**] Bile drain gram stain: negative
   [**2174-3-9**] Endotracheal gram stain: negative
   303/10: Blood cx pending
   Assessment and Plan
   61M with ETOH and cocaine abuse per report, CHF with EF 15%, now
   transferred from OSH s/p surgical management for gangrenous and
   perforated gall bladder with suspected complication of bile leak,
   transferred for ERCP.
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak: POD 3 from surgery on [**3-7**].  Intraoperative findings of perforated
   gallbladder with associated abscess.  Has been on unclear antibiotics
   at OSH (verbal report imipenem/vanomycin/flagyl on transfer).  Alpha
   strep from operative cultures, blood cultures negative to date.
   Incision site with some lateral induration and erythema and
   ?purulence.  ERCP performed on [**3-9**] demonstrated a bile leak at
   operative site and stent placed in CBD. Afterwards, JP drainage slowed
   considerably to 70cc over past 12 hours. Random Vanc level on admission
   was 20.1. Lipase/Amylase elevated post-procedure.
   - Surgery consult this AM
   - F/U GI recs
   - Monitor JP drainage.
   - F/U culture data
   - Continue Vanc/Zosyn/Cipro for now, day 3
   - CT abd/pelvis post ERCP to eval surgical site and drainage
   - Trend Lipase/Amylase in AM to ensure downtrending
   # Septic Shock: Normotensive without pressors, but infection thought to
   be biliary source. Lactate 0.7. WBC at 23.1, mildly elevated
   temperatures this AM.
   - Can also check ScvO2 if BPs drop again.
   - Blood, urine, sputum, biliary cultures pending
   - C. diff ordered
   - Re-check CXR this AM
   - f/u OSH cultures
   - Continue Vanc/Cipro/Zosyn for now, day 3
   # Respiratory Failure:  Unclear on circumstances under which intubated
   ?from post OR.  On CPAP, requiring 22/10 and FiO2 0.5 to maintain
   oxygenation. ETT tube placement appropriate (4cm from carina). On
   Fentanyl/Versed for sedation. CXR on admission demonstrated small
   bilateral pleural effusions and right middle lobe atelactasis. Sputum
   gram stain negative this AM, but cultures pending.
   - Check TTE
   - SBT in AM
   # Acute on Chronic Systolic Heart Failure: Per report, EF 15%, but no
   OMR records. Patient without pacemaker. Etiology unclear, EtOH vs.
   cocaine vs. ischemic dilated cardiomyopathy as his ingestion history is
   synergistic for development of cardiomyopathy.  LBBB pattern on ECG
   present at OSH admission with negative CEs, but age unknown.  Appears
   euvolemic on exam.
   - Holding home Carvedilol given BP
   - Holding home Torsemide given ARF, consider restarting if BP
   tolerate
   - Holding home ACE given ARF & BP
   - Likely diuresis once blood pressure tolerates
   - Gentle IVF
s when necessary
   - Encourage EtOH cessation
   - Outpatient cardiology follow-up for evaluation for pacemaker
   # ETOH Abuse:  Per report, but unknown history. Not folate/b12
   deficient.
   - Monitor for signs of withdrawal once off sedation.
   - Hold IV folate/b12
   - Continue IV MVI until can tolerate PO
   - SW consult when patient weaned from sedation
   # Acute Renal Failure: Unknown baseline, but Cr 0.8 this AM down from
   1.1 on presentation. Likely prerenal as improve with 1L D5W yesterday.
   - Trend BUN/Cr
   # Anemia:  Hct stable from presentation at 30.5. Iron studies
   consistent with anemia of chronic disease.
   - Trend Hct
   # Leukocytosis:  WBC 28.8 post op, 23.1 this AM following additional
   instrumentation from ERCP.
   - Infectious workup as above.
   - Send C.diff
   # Hypernatremia:  Likely hypovolemic hyponatremia as serum Na improved
   overnight with 1L D5W.
   - Repeat 1L D5W @ 75-100cc/hr given low EF
   - As patient with bowel sounds this AM, consider placing an NG tube for
   optimal delivery of free water
   # Colitis: Etiology unknown. Patient currently without diarrhea or
   BRBPR.
   - Hold ASAcol for now in context of acute heptic/biliary process.
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-3-9**] 02:22 PM
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: pending improvement

2174-03-11 07:34:00 Physician Resident Progress Note
Chief Complaint: abdominal pain
   24 Hour Events:
   - Surgery consulted, will follow along
   - GI recommended fluids & CT
   - given 1L D5W for elevated Na in AM, another 500cc overnight for sbp's
   in the 80's to good effect
   - PM labs demonstrate improved Na and decreasing WBC, but slightly
   increased Lipase
   - CT abd/pelvis --> Persistent fluid and fat stranding seen in the
   region of the gallbladder fossa, corresponding to the extraluminal
   biliary leak seen during ERCP. 2. Minimal stranding about the
   pancreatic tail, possibly related to
   uncomplicated pancreatitis. 3. Degenerative changes in the spine.
   - TTE --> EF 15-20%, LV dilatation c/w EtOH DCM
   - trialed on [**5-11**], but hypercarbic, so turned up to [**8-11**] overnight, on
   SBT since 6AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-9**] 02:20 PM
   Vancomycin - [**2174-3-10**] 07:35 PM
   Cefipime - [**2174-3-10**] 10:19 PM
   Metronidazole - [**2174-3-11**] 12:19 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2174-3-10**] 07:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-11**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (98.9
   HR: 100 (77 - 105) bpm
   BP: 89/42(56) {81/40(54) - 123/70(83)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,688 mL
                                                                  1,305 mL
   PO:
             TF:
   IVF:
                                                                  2,688 mL
                                                                  1,305 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                  1,020 mL
   Urine:
                                                                  1,590 mL
                                                                    700 mL
   NG:
   300 mL
   Stool:
   Drains:
                                                                     30 mL
                                                                     20 mL
   Balance:
                                                                  1,068 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 405 (345 - 490) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 70
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.38/49/125/26/3
   Ve: 8.7 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General: Intubated, mildly sedated, but opens eyes to command
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   rhonchi
   CV: Distant heart sounds, no murmurs appreciated
   Abdomen:  Degree of distention unchanged, bowel sounds present, moves
   arms when RUQ palpated. Distal incision site in RUQ covered with CDI
   dressing, proximal incision site is mildly erythematous at incision
   site without drainage or edema.  RUQ JP drain with clear brown
   drainage.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   Urine culture [**3-9**]: Negative
   Biliary drain culture [**3-9**]: Gram stain negative, culture pending
   Sputum culture [**3-9**]: Gram stain negative, culture pending
   Blood culture [**3-9**] x 2: Pending
   CT abdomen/pelvis [**2174-3-10**]: IMPRESSION: 1. Persistent fluid and fat
   stranding seen in the region of the gallbladder fossa, corresponding to
   the extraluminal biliary leak seen during ERCP. 2. Minimal stranding
   about the pancreatic tail, possibly related to uncomplicated
   pancreatitis. 3. Degenerative changes in the spine.
   Echocardiogram [**2174-3-10**]: Dilated left ventricle with severe global
   systolic dysfunction. Preserved right ventricular systolic function. No
   clinically-significant valvular disease seen.
   CXR [**2174-3-10**]: There is mild interstitial pulmonary edema. Blunting of
   both costophrenic angles may reflect small effusions. Right mid lung
   atelectasis/scarring is seen. The cardiac and mediastinal silhouettes
   are stable with moderate enlargement of the cardiac silhouette.
   421 K/uL
   9.7 g/dL
   100 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.6 mEq/L
   11 mg/dL
   111 mEq/L
   145 mEq/L
   30.1 %
   20.8 K/uL
        [image002.jpg]
                             [**2174-3-9**]  01:14 PM
                             [**2174-3-9**]  09:48 PM
                             [**2174-3-10**]  04:37 AM
                             [**2174-3-10**]  04:52 AM
                             [**2174-3-10**]  04:48 PM
                             [**2174-3-10**]  04:59 PM
                             [**2174-3-11**]  03:08 AM
                             [**2174-3-11**]  03:26 AM
   WBC
   26.0
   23.1
   19.9
   20.8
   Hct
   30.2
   30.5
   29.9
   30.1
   Plt
   362
   376
   401
   421
   Cr
   1.1
   0.8
   0.9
   0.9
   TCO2
   29
   29
   32
   30
   Glucose
   73
   88
   117
   100
   Other labs: PT / PTT / INR:16.4/31.0/1.5, ALT / AST:[**12-25**], Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:[**Telephone/Fax (1) 11844**], Differential-Neuts:88.1 %,
   Band:0.0 %, Lymph:6.9 %, Mono:2.5 %, Eos:2.2 %, Lactic Acid:0.7 mmol/L,
   Albumin:3.3 g/dL, LDH:150 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   61M with ETOH and cocaine abuse per report, CHF with EF 15%, now
   transferred from OSH s/p surgical management for gangrenous and
   perforated gall bladder with suspected complication of bile leak,
   transferred for ERCP.
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak: POD 4, Intraoperative findings of perforated gallbladder with
   abscess.  S/p ERCP & CBD stent placement on [**3-9**] for bile leak at
   operative site. Afterwards, JP drainage 30cc over past 24 hours. CT
   abdomen/pelvis demonstrates only stranding at site of procedure and
   pancreatitis, but no fluid collection.
   Lipase/Amylase elevated post-procedure, but trending down today. All
   cultures negative to date except alpha strep from operative cultures.
   WBC stable, but patient afebrile.
   - F/U GI & Surgery recs
   - Monitor JP drainage, d/w surgery parameters to pull drain & Dobhoff
   placement
   - F/U culture data
   - Continue Vancomycin/Cefepime/Flagyl, day 5
   - Trend WBC
   # Hypotension/?Sepsis: Normotensive without pressors, transient lower
   blood pressures overnight responded to 500cc bolus. Infection thought
   to be biliary source. WBC at 20.8, but no positive culture data.
   - Blood, sputum, biliary cultures pending
   - C. diff ordered
   - f/u OSH cultures
   - Continue Vanc/Cefepime/Flagyl for now, day 5
   # Respiratory Failure:  Improving, weaned pressure support to [**5-11**]
   yesterday, but increased to [**8-11**] in the context of hypercarbia.This AM,
   failed SBT.  On decreased amounts of Fentanyl/Versed for sedation. CXR
   from [**2174-3-10**] confirms small bilateral pleural effusions. Sputum gram
   stain negative this AM, but cultures pending.
   - Daily weaning trials
   - Attempt to diurese in an effort to improve pulmonary function with
   Lasix gtt 5cc/hr
   # Acute on Chronic Systolic Heart Failure: Per TTE yesterday, EF 15-20%
   with LV dilatation. Cardiologist felt imaging was consistent with a DCM
   from EtOH.  LBBB pattern on ECG present at OSH admission with negative
   CEs, but age unknown.
   - Diuresis with Lasix gtt 5cc/hr
   - Holding home Carvedilol given BP
   - Holding home Torsemide given ARF, consider restarting if BP
   tolerate
   - Holding home ACE given ARF & BP
   - Gentle IVF
s when necessary
   - Encourage EtOH cessation
   - Outpatient cardiology follow-up for evaluation for pacemaker
   # ETOH Abuse:  Per report, but unknown history. Not folate/b12
   deficient.
   - Monitor for signs of withdrawal once off sedation.
   - Continue IV folate/thiamine
   - Continue IV MVI until can tolerate PO
   - SW consult when patient weaned from sedation
   # Acute Renal Failure: Unknown baseline, but Cr 0.9 this AM (1.1 on
   presentation
   - Trend BUN/Cr
   # Anemia of chronic inflammation:  Hct stable from presentation at
   30.1. Iron studies support anemia of chronic disease.
   - Trend Hct
   # Leukocytosis:  WBC 28.8 post op, 20.8 this AM.
   - Infectious workup as above.
   - Send C.diff
   # Hypernatremia: Resolved after 1L D5W.
   - Trend electrolytes
   # Colitis: Etiology unknown. Patient currently without diarrhea or
   BRBPR.
   - Hold ASAcol for now in context of acute heptic/biliary process.
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition: NPO except meds
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2174-3-9**] 02:22 PM
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Arterial Line - [**2174-3-9**] 10:45 PM
   Prophylaxis:
   DVT: Boots, SC Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending clinical improvement

2174-03-12 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - surgery recs: spoke re: daubhoff, said def not to place [**3-11**] but will
   d/w Dr. [**Last Name (STitle) **] and leave recs re: placement [**3-12**].  If no daubhoff placed,
   there are TPN recs available.
   - no ERCP recs left.
   - started lasix drip at 5mg/hr (titrate to -1L in 24)--> put out ~4L
   now LOS +~557 ccs
   - BP 80s/40s @ 21:00, -900ccs, stopped lasix gtt
   - spiked T 101 at 1700, sent cultures, given tylenol
   - cultures to date: sputum NG, urine NG, bile NG, blood cltx pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-9**] 02:20 PM
   Vancomycin - [**2174-3-11**] 08:00 PM
   Cefipime - [**2174-3-11**] 10:00 PM
   Metronidazole - [**2174-3-12**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2174-3-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2174-3-12**] 12:00 AM
   Midazolam (Versed) - [**2174-3-12**] 03:36 AM
   Fentanyl - [**2174-3-12**] 03:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-12**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37
C (98.6
   HR: 92 (85 - 108) bpm
   BP: 87/55(66) {87/44(59) - 130/77(93)} mmHg
   RR: 11 (11 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,898 mL
                                                                    321 mL
   PO:
             TF:
   IVF:
                                                                  2,898 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  3,690 mL
                                                                    790 mL
   Urine:
                                                                  3,370 mL
                                                                    460 mL
   NG:
                                                                    300 mL
                                                                    300 mL
   Stool:
   Drains:
                                                                     20 mL
                                                                     30 mL
   Balance:
                                                                   -792 mL
                                                                   -469 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 354 (354 - 354) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 97
   PIP: 29 cmH2O
   Plateau: 13 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 96%
   ABG: ///29/
   Ve: 7.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   502 K/uL
   10.2 g/dL
   110 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.4 mEq/L
   10 mg/dL
   105 mEq/L
   142 mEq/L
   31.2 %
   15.7 K/uL
        [image002.jpg]
                             [**2174-3-9**]  01:14 PM
                             [**2174-3-9**]  09:48 PM
                             [**2174-3-10**]  04:37 AM
                             [**2174-3-10**]  04:52 AM
                             [**2174-3-10**]  04:48 PM
                             [**2174-3-10**]  04:59 PM
                             [**2174-3-11**]  03:08 AM
                             [**2174-3-11**]  03:26 AM
                             [**2174-3-12**]  04:28 AM
   WBC
   26.0
   23.1
   19.9
   20.8
   15.7
   Hct
   30.2
   30.5
   29.9
   30.1
   31.2
   Plt
   362
   376
   401
   421
   502
   Cr
   1.1
   0.8
   0.9
   0.9
   0.7
   TCO2
   29
   29
   32
   30
   Glucose
   73
   88
   117
   100
   110
   Other labs: PT / PTT / INR:16.4/31.0/1.5, ALT / AST:13/19, Alk Phos / T
   Bili:58/0.5, Amylase / Lipase:68/168, Differential-Neuts:88.1 %,
   Band:0.0 %, Lymph:6.9 %, Mono:2.5 %, Eos:2.2 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:129 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Imaging: CXR [**3-12**]: looks largely unchanged from prior.
   Microbiology: Sputum gram stain: no microorganisms
   Blood cltx: pending
   Urine cltx: pending
   Assessment and Plan
   61M with ETOH and cocaine abuse per report, CHF with EF 15%, now
   transferred from OSH s/p surgical management for gangrenous and
   perforated gall bladder with suspected complication of bile leak,
   transferred for ERCP.
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak: POD 5, Intraoperative findings of perforated gallbladder with
   abscess.  S/p ERCP & CBD stent placement on [**3-9**] for bile leak at
   operative site. CT abdomen/pelvis demonstrates only stranding at site
   of procedure and pancreatitis, but no fluid collection. Lipase/Amylase
   elevated post-procedure, but trending down, today 168. All cultures
   negative to date except alpha strep from operative cultures. WBC
   trending down, today 15.7.  Patient has been largely afebrile, but did
   spike to 101F overnight.
   - F/U GI & Surgery recs
   - Monitor JP drainage, d/w surgery parameters to pull drain & Dobhoff
   placement
   - F/U culture data
   - Continue Vancomycin/Cefepime/Flagyl, day 6
   - Trend WBC
   # Hypotension/?Sepsis: Normotensive without pressors, transient lower
   blood pressures overnight probably secondary to diuresis, stopped lasix
   gtt. Infection thought to be biliary source. WBC at  15.7 from 20.8
   yesterday, but no positive culture data.
   - Blood pending, sputum NG, biliary cultures NG.
   - C. diff ordered
   - f/u OSH cultures
   - Continue Vanc/Cefepime/Flagyl for now, day 6
   # Respiratory Failure:  Improving, weaned pressure support to [**5-11**]
   yesterday, but increased to [**8-11**] in the context of hypercarbia.This AM,
   on CMV, FiO2 50, PEEP 5, f 15, VT .500.  On decreased amounts of
   Fentanyl/Versed for sedation. CXR from [**2174-3-10**] confirms small bilateral
   pleural effusions, second CXR done this AM. Sputum gram stain negative
   this AM, but cultures pending.
   - Daily weaning trials
   - Diuresed well yesterday on Lasix gtt in an effort to improve
   pulmonary function.
   # Acute on Chronic Systolic Heart Failure: Per TTE [**3-10**], EF 15-20% with
   LV dilatation. Cardiologist felt imaging was consistent with a DCM from
   EtOH.  LBBB pattern on ECG present at OSH admission with negative CEs,
   but age unknown.
   - Diuresed yesterday
   - Holding home Carvedilol given BP
   - Holding home Torsemide given ARF, consider restarting if BP
   tolerate
   - Holding home ACE given ARF & BP
   - Encourage EtOH cessation
   - Outpatient cardiology follow-up for evaluation for pacemaker
   # ETOH Abuse:  Per report, but unknown history. Not folate/b12
   deficient.
   - Monitor for signs of withdrawal once off sedation.
   - Continue IV folate/thiamine
   - Continue IV MVI until can tolerate PO
   - SW consult when patient weaned from sedation
   # Acute Renal Failure: Unknown baseline, but Cr 0.7 this AM (1.1 on
   presentation)
   - Trend BUN/Cr
   # Anemia of chronic inflammation:  Hct stable from presentation at
   31.2. Iron studies support anemia of chronic disease.
   - Trend Hct
   # Leukocytosis:  WBC 28.8 post op, 15.7 this AM.
   - Infectious workup as above.
   - Send C.diff
   # Hypernatremia: Resolved after 1L D5W.
   - Trend electrolytes
   # Colitis: Etiology unknown. Patient currently without diarrhea or
   BRBPR.
   - Hold ASAcol for now in context of acute heptic/biliary process.
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition: Could start TPN today. Surgery recommends holding off on
   tube feeds.
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2174-3-9**] 02:22 PM
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Arterial Line - [**2174-3-9**] 10:45 PM
   Prophylaxis:
   DVT: Boots, SC Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending clinical improvement
   ------ Protected Section ------
   Pt seen and evaluated with team. Please see above for details of
   history, exam and plan.
   In addition:
   61 yr man with CHF with EF 15% here for post-op management of
   gangrenous gall bladder with sepsis and endoscopic management of bile
   leak. Intubated since [**3-7**] at OSH.
   Continuing on TPN
   On lasix drip with 4 liter output. BP decreased and drip stopped with
   return of BP
   All cultures here neg to date.
   101.0   92    87/55     11    96% on AC PEEP5 RR16 TV 500 FiO2 is 50%
   Sedated with Fentanyl/Versed able to follow simple commands
   Lungs
 rhonchorous
   Cor
 s1 s2 nl, no murmurs
   Abdomen
 min drainage, hypoactive BS
   CXR - unchanged
   Plan:
   Resp Failure
 failed SBT. Continuing on full vent.
   CHF
 maximized diuresis with lasix drip.
                If he begins to get pos again
 restart drip
   CHF/Abdom pain and distention contributing to failure t wean. Might
   take a while to wean.
   Next week will need to address possibility of Trach/PEG
   Biliary Sepsis
   Vanc/Cefipime/Flagyl
   Management of drains by surgery
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2174-3-12**] 12:18 ------
   Time Spent 40 min
   Remains critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2174-3-12**] 12:19 ------

2174-03-13 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- gave 60meq K, 2gm Mg at 5 PM to replete lytes
   -- TPN ordered and started
   -- lasix gtt restarted, goal -1L (-771 at 5 PM)--> now -2L
   -- called by RN at 10:30 to evaluate pt for slight decrease in O2 sat
   to 93%, even after suctioning. Lungs clear, abd not distended, UOP good
   on Lasix gtt. Will monitor for now, CXR if further desat.  Later
   self-resolved to normal sats of 97%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-3-12**] 08:00 PM
   Cefipime - [**2174-3-12**] 10:00 PM
   Metronidazole - [**2174-3-13**] 01:54 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2174-3-12**] 08:30 AM
   Famotidine (Pepcid) - [**2174-3-12**] 08:43 AM
   Fentanyl - [**2174-3-12**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2174-3-13**] 01:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-13**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 99 (85 - 108) bpm
   BP: 89/57(56) {87/46(56) - 98/65(78)} mmHg
   RR: 18 (11 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.3 kg (admission): 77.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,879 mL
                                                                    471 mL
   PO:
             TF:
   IVF:
                                                                  1,654 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                  1,135 mL
   Urine:
                                                                  3,025 mL
                                                                  1,020 mL
   NG:
                                                                    300 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                     30 mL
                                                                     15 mL
   Balance:
                                                                 -1,476 mL
                                                                   -664 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 131
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 96%
   ABG: ///33/
   Ve: 9.9 L/min
   Physical Examination
   General: Intubated, mildly sedated, but opens eyes to command
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   rhonchi
   CV: Distant heart sounds, no murmurs appreciated
   Abdomen:  Bowel sounds present, interval decrease in abdominal
   distention, RUQ tenderness. Distal incision site in RUQ covered with
   CDI dressing, proximal incision site is mildly erythematous at incision
   site without drainage or edema.  RUQ JP drain with clear brown
   drainage.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   586 K/uL
   10.8 g/dL
   143 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.3 mEq/L
   15 mg/dL
   98 mEq/L
   142 mEq/L
   33.6 %
   14.4 K/uL
        [image002.jpg]
                             [**2174-3-9**]  09:48 PM
                             [**2174-3-10**]  04:37 AM
                             [**2174-3-10**]  04:52 AM
                             [**2174-3-10**]  04:48 PM
                             [**2174-3-10**]  04:59 PM
                             [**2174-3-11**]  03:08 AM
                             [**2174-3-11**]  03:26 AM
                             [**2174-3-12**]  04:28 AM
                             [**2174-3-12**]  03:58 PM
                             [**2174-3-13**]  04:43 AM
   WBC
   23.1
   19.9
   20.8
   15.7
   Hct
   30.5
   29.9
   30.1
   31.2
   Plt
   376
   401
   421
   502
   Cr
   0.8
   0.9
   0.9
   0.7
   0.7
   0.8
   TCO2
   29
   29
   32
   30
   Glucose
   88
   117
   100
   110
   110
   143
   Other labs: PT / PTT / INR:17.0/32.6/1.5, ALT / AST:17/23, Alk Phos / T
   Bili:59/0.5, Amylase / Lipase:68/119, Differential-Neuts:88.1 %,
   Band:0.0 %, Lymph:6.9 %, Mono:2.5 %, Eos:2.2 %, Lactic Acid:0.7 mmol/L,
   Albumin:3.1 g/dL, LDH:131 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:2.9
   mg/dL
   Microbiology: Blood cultures NG since [**3-9**]
   Urine culture negative
   Sputum gram stain negative
   Bile fluid gram stain negative
   Assessment and Plan
   61M with ETOH and cocaine abuse per report, CHF with EF 15%, now
   transferred from OSH s/p surgical management for gangrenous and
   perforated gall bladder with suspected complication of bile leak,
   transferred for ERCP.
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak: POD 6, Intraoperative findings of perforated gallbladder with
   abscess.  S/p ERCP & CBD stent placement on [**3-9**] for bile leak at
   operative site. CT abdomen/pelvis demonstrates only stranding at site
   of procedure and pancreatitis, but no fluid collection. Lipase/Amylase
   elevated post-procedure, but trending down, today 119. All cultures
   negative to date except alpha strep from operative cultures. WBC
   trending down, today 14.4.  Patient has been afebrile.
   - F/U GI & Surgery recs
   - Monitor JP drainage, d/w surgery parameters to pull drain & Dobhoff
   placement
   - F/U culture data
   - Continue Vancomycin/Cefepime/Flagyl, day 6
   - Trend WBC
   # Hypotension/?Sepsis: Normotensive without pressors on lasix gtt.
   Infection thought to be biliary source. WBC at  14.4 from 28.8 on
   admission, but no positive culture data.
   - Blood pending, sputum NG, biliary cultures NG.
   - C. diff ordered but pt has not stooled since admission.
   - f/u OSH cultures
   - Continue Vanc/Cefepime/Flagyl for now, day 6
   # Respiratory Failure:  This AM, on CMV, FiO2 50, PEEP 5, f 16, VT
   .500.  On decreased amounts of Fentanyl/Versed for sedation.
   - Daily weaning trials
   - Diuresed well on Lasix gtt in an effort to improve pulmonary
   function.
   # Acute on Chronic Systolic Heart Failure: Per TTE [**3-10**], EF 15-20% with
   LV dilatation. Cardiologist felt imaging was consistent with a DCM from
   EtOH.  LBBB pattern on ECG present at OSH admission with negative CEs,
   but age unknown.
   - Diuresed on lasix gtt
   - Holding home Carvedilol given BP
   - Holding home Torsemide given ARF, consider restarting if BP
   tolerate
   - Holding home ACE given ARF & BP
   - Encourage EtOH cessation
   - Outpatient cardiology follow-up for evaluation for pacemaker
   # ETOH Abuse:  Per report, but unknown history. Not folate/b12
   deficient.
   - Monitor for signs of withdrawal once off sedation.
   - Continue IV folate/thiamine
   - Continue IV MVI until can tolerate PO
   - SW consult when patient weaned from sedation
   # Acute Renal Failure: Unknown baseline, but Cr 0.8 this AM (1.1 on
   presentation)
   - Trend BUN/Cr
   # Anemia of chronic inflammation:  Hct stable from presentation at
   33.6. Iron studies support anemia of chronic disease.
   - Trend Hct
   # Leukocytosis:  WBC 28.8 post op, 14.4 this AM.
   - Infectious workup as above.
   - Send C.diff
   # Colitis: Etiology unknown. Patient currently without diarrhea or
   BRBPR.
   - Hold ASAcol for now in context of acute heptic/biliary process.
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2174-3-12**] 09:00 PM 41.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Arterial Line - [**2174-3-9**] 10:45 PM
   18 Gauge - [**2174-3-12**] 09:00 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: Famotidine 20 mg IV Q12H
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:  [**Hospital Unit Name 4**]
   ------ Protected Section ------
   Pt seen and evaluated with team. Please see above for details of
   history and plan
   In addition:
   61 yr man with etoh and cocaine abuse here for management of gangrenous
   gb s/p surgery
   Failure to wean
   Restarted lasix drip with neg 2 liters over the day
   RSBI this AM
 131
   Tmax 100.0 p 99 bp 89/57  rr 18   96%
   AC fio2 50 PEEP 5
   Exam: Lungs clear/abd less distended
   Labs
 WBC down to 14.4
               K 3.3
 repleted
   Cultures here neg to date
   Plan:
   Continued vent support
 RSBI still quite high, EF only 10-15%
   Vanco/Cef/ Flagyl for his gangrenous cholecystitis
   CHF
 continued diuresis as BP tolerates
   ARF - resolved
   Time Spent:  30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2174-3-13**] 09:37 ------

2174-03-14 07:07:00 Physician Resident Progress Note
Chief Complaint: CC: Abdominal Pain
   [**Hospital Unit Name 4**] Admission: Bile leak s/p cholecystectomy, shock
   24 Hour Events:
   - lasix gtt held for sbp's in the low 80's
   - received 250cc x 1 after sbp's did not improve off drip
   - patient with 2 episodes of NSVT, one 16 beats & one 21 beats with
   normal electrolytes
   - surgery explored wound, seroma only, NTD
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-3-13**] 08:00 PM
   Cefipime - [**2174-3-13**] 10:00 PM
   Metronidazole - [**2174-3-14**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2174-3-13**] 09:45 AM
   Midazolam (Versed) - [**2174-3-13**] 11:35 AM
   Heparin Sodium (Prophylaxis) - [**2174-3-14**] 12:00 AM
   Fentanyl - [**2174-3-14**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-14**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 38.3
C (101
   Tcurrent: 36.5
C (97.7
   HR: 96 (89 - 111) bpm
   BP: 87/19(37) {79/19(37) - 104/78(83)} mmHg
   RR: 19 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,891 mL
                                                                    590 mL
   PO:
             TF:
   IVF:
                                                                  1,868 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                    560 mL
   Urine:
                                                                  2,725 mL
                                                                    450 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                     15 mL
                                                                     10 mL
   Balance:
                                                                     51 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 13 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 96%
   ABG: ///31/
   Ve: 8.9 L/min
   Physical Examination
   General: Intubated, mildly sedated, but opens eyes to command
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   rhonchi
   CV: Distant heart sounds, no murmurs appreciated
   Abdomen:  Bowel sounds present, interval decrease in abdominal
   distention, RUQ tenderness. Distal incision site in RUQ covered with
   CDI dressing, proximal incision site is mildly erythematous at incision
   site with serosanguinous drainage.  RUQ JP drain with clear brown
   fluid.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   538 K/uL
   10.0 g/dL
   180 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.2 mEq/L
   18 mg/dL
   105 mEq/L
   144 mEq/L
   32.0 %
   11.9 K/uL
        [image002.jpg]
                             [**2174-3-10**]  04:52 AM
                             [**2174-3-10**]  04:48 PM
                             [**2174-3-10**]  04:59 PM
                             [**2174-3-11**]  03:08 AM
                             [**2174-3-11**]  03:26 AM
                             [**2174-3-12**]  04:28 AM
                             [**2174-3-12**]  03:58 PM
                             [**2174-3-13**]  04:43 AM
                             [**2174-3-13**]  03:43 PM
                             [**2174-3-14**]  03:49 AM
   WBC
   19.9
   20.8
   15.7
   14.4
   11.9
   Hct
   29.9
   30.1
   31.2
   33.6
   32.0
   Plt
   [**Telephone/Fax (3) 11864**]86
   538
   Cr
   0.9
   0.9
   0.7
   0.7
   0.8
   0.8
   0.8
   TCO2
   29
   32
   30
   Glucose
   117
   100
   110
   110
   143
   149
   180
   Other labs: PT / PTT / INR:16.3/30.5/1.4, ALT / AST:16/29, Alk Phos / T
   Bili:60/0.3, Amylase / Lipase:68/119, Differential-Neuts:80.8 %,
   Band:0.0 %, Lymph:10.3 %, Mono:3.9 %, Eos:4.6 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:132 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.9 mg/dL
   Imaging: CXR [**3-12**]:
   CLINICAL INDICATION: History of gangrenous cholecystitis status post
   open cholecystectomy and respiratory failure.
   FINDINGS: A single semi-upright radiograph of the chest was obtained
   and compared to prior exam dated [**2174-3-10**]. Endotracheal tube, left
   subclavian catheter and nasogastric tubes are again seen and unchanged
   in
   position. The tip of the nasogastric tube is not visualized on the
   film.
   There is stable enlargement of the cardiac silhouette. There is stable
   bilateral interstitial prominence which may represent pulmonary edema
   and
   additional areas of linear atelectasis are seen bilaterally. Overall,
   there
   is no appreciable change from the prior exam.
   Micro:
   [1][**2174-3-13**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   [2][**2174-3-13**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [3][**2174-3-13**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   Assessment and Plan
   61M with ETOH and cocaine abuse per report, CHF with EF 15%, now
   transferred from OSH s/p surgical management for gangrenous and
   perforated gall bladder with suspected complication of bile leak,
   transferred for ERCP.
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak: POD 7, Intraoperative findings of perforated gallbladder with
   abscess.  S/p ERCP & CBD stent placement on [**3-9**] for bile leak at
   operative site. CT abdomen/pelvis demonstrates only stranding at site
   of procedure and pancreatitis, but no fluid collection. All cultures
   negative to date except alpha strep from operative cultures. WBC
   trending down, today 11.9.  Patient afebrile o/n. On
   Vancomycin/Cefepime/Flagyl, day 7
   - F/U GI & Surgery recs
   - Monitor JP drainage, d/w surgery parameters to pull drain & Dobhoff
   placement
   - F/U culture data
   - Switch abx to cipro/flagyl
   - Trend WBC
   # Hypotension/?Sepsis: Not on pressors, lasix gtt held yesterday.
   Infection thought to be biliary source. WBC at  11.9 from 28.8 on
   admission, but no positive culture data.
   - Blood pending, sputum NG, biliary cultures NG.
   - C. diff ordered but pt has not stooled since admission.
   - f/u OSH cultures
   - cipro/flagyl
    # Respiratory Failure:  This AM, RSBI 100, on PSV 18/5.  On decreased
   amounts of Fentanyl/Versed for sedation.
   - SBT as tolerated
   - Diuresed well on Lasix gtt in an effort to improve pulmonary
   function.
   # Acute on Chronic Systolic Heart Failure: Per TTE [**3-10**], EF 15-20% with
   LV dilatation. Cardiologist felt imaging was consistent with a DCM from
   EtOH.  LBBB pattern on ECG present at OSH admission with negative CEs,
   but age unknown.
   - Restart lasix gtt as BP tolerates
   - try restarting Carvedilol this aftenoon if BP stable, restarting bb
   should potentially increase filling time and CO
   - Holding home Torsemide given ARF, consider restarting if BP
   tolerate
   - Holding home ACE given ARF & BP
   - Encourage EtOH cessation
   - Outpatient cardiology follow-up for evaluation for pacemaker
   # Nutrition.  Sugery recommends restarting tube feeds today
   - Nutrition consult, restart tube feeds per recs.
   # Leukocytosis:  WBC 28.8 post op, 14.4 this AM.
   - Infectious workup as above.
   - Send C.diff
   # ETOH Abuse:  Per report, but unknown history. Not folate/b12
   deficient.
   - SW consult when patient weaned from sedation
   # Acute Renal Failure: Resolved
   - Trend BUN/Cr
   # Anemia of chronic inflammation:  Hct stable from presentation at
   33.6. Iron studies support anemia of chronic disease.
   - Trend Hct
   # Colitis: Etiology unknown. Patient currently without diarrhea or
   BRBPR.
   - Hold ASAcol for now in context of acute heptic/biliary process.
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2174-3-13**] 08:44 PM 45.[**Telephone/Fax (5) 10248**] mL/hour
   tube feeds today per nutrition.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Arterial Line - [**2174-3-9**] 10:45 PM
   18 Gauge - [**2174-3-12**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: start  PPI vs. H2
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);

2174-03-15 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Abx switched to cipro/flagyl
   - 3PM lytes: wnl
   - restarted lasix gtt, then at 1530, HR 116, BP 86/60, stopped lasix.
   Fluid balance was about even.
   - restarted tubefeeds, Isosource 1.5 started @ 10cc/hr, advance every
   six to 55cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2174-3-13**] 10:00 PM
   Vancomycin - [**2174-3-14**] 07:45 AM
   Ciprofloxacin - [**2174-3-14**] 10:00 PM
   Metronidazole - [**2174-3-15**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-15**] 12:00 AM
   Midazolam (Versed) - [**2174-3-15**] 04:00 AM
   Fentanyl - [**2174-3-15**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-15**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.8
   HR: 112 (93 - 121) bpm
   BP: 89/66(71) {82/50(56) - 104/74(78)} mmHg
   RR: 16 (7 - 23) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,299 mL
                                                                    412 mL
   PO:
             TF:
                                                                     71 mL
                                                                    142 mL
   IVF:
                                                                  1,376 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                    235 mL
   Urine:
                                                                  2,355 mL
                                                                    230 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
                                                                     10 mL
                                                                      5 mL
   Balance:
                                                                   -216 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (410 - 630) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 88
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: ///31/
   Ve: 8.9 L/min
   Physical Examination
   General: Intubated, mildly sedated, but opens eyes and moves
   extremities to command
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   rhonchi
   CV: Distant heart sounds, [**2-12**] holosystolic murmur. No rubs or gallops.
   Abdomen:  Bowel sounds present, interval decrease in abdominal
   distention, RUQ tenderness. Distal incision site in RUQ covered with
   CDI dressing, no e/o infection.  RUQ JP drain with minimal amount of
   clear brown fluid.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   584 K/uL
   10.2 g/dL
   126 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   16 mg/dL
   103 mEq/L
   142 mEq/L
   32.1 %
   14.2 K/uL
        [image002.jpg]
                             [**2174-3-10**]  04:59 PM
                             [**2174-3-11**]  03:08 AM
                             [**2174-3-11**]  03:26 AM
                             [**2174-3-12**]  04:28 AM
                             [**2174-3-12**]  03:58 PM
                             [**2174-3-13**]  04:43 AM
                             [**2174-3-13**]  03:43 PM
                             [**2174-3-14**]  03:49 AM
                             [**2174-3-14**]  05:50 PM
                             [**2174-3-15**]  03:00 AM
   WBC
   20.8
   15.7
   14.4
   11.9
   14.2
   Hct
   30.1
   31.2
   33.6
   32.0
   32.1
   Plt
   421
   502
   586
   538
   584
   Cr
   0.9
   0.7
   0.7
   0.8
   0.8
   0.8
   0.9
   0.8
   TCO2
   32
   30
   Glucose
   100
   110
   110
   143
   149
   180
   159
   126
   Other labs: PT / PTT / INR:16.5/29.4/1.5, ALT / AST:16/29, Alk Phos / T
   Bili:60/0.3, Amylase / Lipase:68/119, Differential-Neuts:75.4 %,
   Band:0.0 %, Lymph:13.5 %, Mono:6.3 %, Eos:4.5 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:132 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.6 mg/dL
   Imaging: CXR [**2174-3-14**]:
   Pulmonary vascular engorgement is more pronounced, mediastinal vascular
   dilatation and abnormal heart size are stable. Small bilateral pleural
   effusions may be present and the lungs are on the edge of pulmonary
   edema.
   Overall, findings point to worsening cardiac decompensation.
   Microbiology: Urine culture pending
   Blood cultures pending
   Sputum NG
   Assessment and Plan
   61M with ETOH and cocaine abuse per report, CHF with EF 15%, now
   transferred from OSH s/p surgical management for gangrenous and
   perforated gall bladder with suspected complication of bile leak,
   transferred for ERCP.
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak: POD 8, Intraoperative findings of perforated gallbladder with
   abscess.  S/p ERCP & CBD stent placement on [**3-9**] for bile leak at
   operative site. CT abdomen/pelvis demonstrates only stranding at site
   of procedure and pancreatitis, but no fluid collection. All cultures
   negative to date except alpha strep from operative cultures. WBC was
   trending down, today slightly elevated from 11.9
 14.2.  Patient
   afebrile o/n. On Ciprofloxacin day 1, Flagyl, day 8.  Yesterday vanco
   and cefepime were discontinued after 7 days.
   - F/U GI & Surgery recs
   - Monitor JP drainage, d/w surgery parameters to pull drain & Dobhoff
   placement
   - F/U culture data, blood and urine cultures pending.
   - Continue cipro/flagyl.
   - Trend WBC, if continues to rise or pt becomes febrile, consider
   adding back vanco.
   - Repeat AM CXR.
   # Hypotension/?Sepsis: Not on pressors, lasix gtt held yesterday.
   Infection thought to be biliary source. WBC at  14.2 from 28.8 on
   admission, but no positive culture data.
   - Blood pending, sputum NG, biliary cultures NG.
   - C. diff ordered but pt has not stooled since admission.
   - cipro/flagyl
    # Respiratory Failure:  This AM, RSBI 88, on PSV 18/5.  On decreased
   amounts of Fentanyl/Versed for sedation.
   - SBT this morning
   - Diuresed well on Lasix gtt in an effort to improve pulmonary
   function.
   # Acute on Chronic Systolic Heart Failure: Per TTE [**3-10**], EF 15-20% with
   LV dilatation. Cardiologist felt imaging was consistent with a DCM from
   EtOH.  LBBB pattern on ECG present at OSH admission with negative CEs,
   but age unknown.
   - try restarting Carvedilol this aftenoon if BP stable, restarting bb
   should potentially increase filling time and CO
   - Initially were holding home Torsemide given ARF and then lasix gtt,
   could restart today (40 mg daily).
   - Holding home ACE given BP
   - Outpatient cardiology follow-up for evaluation for pacemaker
   .
   # Leukocytosis:  WBC 28.8 post op, 14.2 this AM.
   - Infectious workup as above.
   - Send C.diff
   .
   # Anemia of chronic inflammation:  Hct stable from presentation at
   32.1. Iron studies support anemia of chronic disease.
   - Trend Hct
   .
   # Colitis: Etiology unknown. Patient currently without diarrhea or
   BRBPR.
   - Hold ASAcol for now in context of acute heptic/biliary process.
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition:
   Tube feeds per nutrition: Peptamen 1.5 (Full) - [**2174-3-14**] 04:55 PM 20
   mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Arterial Line - [**2174-3-9**] 10:45 PM
   18 Gauge - [**2174-3-12**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not on prophylaxis, should start PPI.
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Patient
   Code status: Full code
   Disposition: ICU

2174-03-16 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - SBT yesterday: did well, but felt further diuresis would be better
   prior to extubation (?tomorrow).
   - restarted lasix gtt, diuresed well.
   - switched to PO haldol for agitation to enable turning down IV
   sedation
   -Spiked fever to 103F at 4:30 PM, HD stable. Pan-cultured and started
   Zosyn in addition to Flagyl and Cipro. no increased secretions, no e/o
   infection on CXR.
   -Pt with periods of apnea and tachypnea. We did an ABG to evaluate:
   7.44/ 55/ 96. Thought to be [**Last Name (un) 631**]-[**Doctor Last Name 632**] breathing? [**2-8**] heart failure.
   -had a 10 beat run of VT, gave 40 of K since he continued on lasix gtt.
   -at 11 PM pt began having SBPs in low 70s. Lasix gtt d/cd.  Opted to
   start low dose pressors over fluid boluses. On levophed 0.08 mg/kg/min.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2174-3-13**] 10:00 PM
   Vancomycin - [**2174-3-14**] 07:45 AM
   Piperacillin - [**2174-3-15**] 06:00 PM
   Ciprofloxacin - [**2174-3-15**] 08:48 PM
   Metronidazole - [**2174-3-16**] 12:49 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-16**] 02:30 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-3-15**] 11:00 AM
   Midazolam (Versed) - [**2174-3-15**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2174-3-16**] 12:49 AM
   Fentanyl - [**2174-3-16**] 05:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-16**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.7
   HR: 102 (94 - 131) bpm
   BP: 96/64(71) {73/53(59) - 112/70(79)} mmHg
   RR: 32 (17 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,443 mL
                                                                    857 mL
   PO:
             TF:
                                                                    792 mL
                                                                    425 mL
   IVF:
                                                                  1,511 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  1,965 mL
                                                                    720 mL
   Urine:
                                                                  1,960 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
                                                                      5 mL
   Balance:
                                                                    478 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 403 (350 - 663) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.44/55/95.[**Numeric Identifier 253**]/29/10
   Ve: 10.9 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General: Intubated, mildly sedated, but opens eyes and moves
   extremities to command
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   rhonchi
   CV: Distant heart sounds, [**2-12**] holosystolic murmur. No rubs or gallops.
   Abdomen:  Bowel sounds present, interval decrease in abdominal
   distention, RUQ tenderness. Distal incision site in RUQ covered with
   CDI dressing, no e/o infection.  RUQ JP drain with minimal amount of
   clear brown fluid.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   674 K/uL
   10.7 g/dL
   182 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.1 mEq/L
   20 mg/dL
   103 mEq/L
   143 mEq/L
   34.0 %
   14.8 K/uL
        [image002.jpg]
                             [**2174-3-12**]  04:28 AM
                             [**2174-3-12**]  03:58 PM
                             [**2174-3-13**]  04:43 AM
                             [**2174-3-13**]  03:43 PM
                             [**2174-3-14**]  03:49 AM
                             [**2174-3-14**]  05:50 PM
                             [**2174-3-15**]  03:00 AM
                             [**2174-3-15**]  01:50 PM
                             [**2174-3-15**]  11:26 PM
                             [**2174-3-16**]  04:15 AM
   WBC
   15.7
   14.4
   11.9
   14.2
   14.8
   Hct
   31.2
   33.6
   32.0
   32.1
   34.0
   Plt
   [**Telephone/Fax (3) 11890**]84
   674
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   0.9
   0.8
   0.9
   1.0
   TCO2
   39
   Glucose
   110
   110
   143
   149
   180
   159
   126
   135
   182
   Other labs: PT / PTT / INR:16.2/27.8/1.4, ALT / AST:15/21, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:99/157, Differential-Neuts:75.4 %,
   Band:0.0 %, Lymph:13.5 %, Mono:6.3 %, Eos:4.5 %, Lactic Acid:1.1
   mmol/L, Albumin:3.1 g/dL, LDH:219 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR: WET READ: while pulmonary edema is improved, airspace
   opacity persists particularly in the right lung base, which could
   represent underlying pneumonia.
   Microbiology: Urine and blood cltx pending
   Assessment and Plan
   61M with ETOH and cocaine abuse per report, CHF with EF 15%, now
   transferred from OSH s/p surgical management for gangrenous and
   perforated gall bladder with suspected complication of bile leak,
   transferred for ERCP.
   .
   # Hypotension/?Sepsis: Started on pressors o/n given SBPs in the 70s;
   given leukocytosis, fever concern exists for infection. Possible
   sources include pancreatitis (lipase 157), surgical site, PNA (RLL),
   CVL infection, PE.  Lasix gtt held overnight. Infection originally
   thought to be biliary source, no positive culture data except alpha
   strep intraoperatively. WBC at 14.8 from 28.8 on admission.  EKG is
   without acute change, UOP has been wnl.
   - Blood pending, sputum NG, biliary cultures NG.
   - C. diff ordered but pt has not stooled since admission.
   - Continue cipro/flagyl/zosyn.  Add on Vanc given possibility of VAP.
   - D/c tube feeds and trend lipase
   - monitoring via arterial line (will need to be placed today)
   - RUQ u/s to evaluate for abscess formation or fluid accumulation
   - Chest CTA if concern for PE persists despite rule out for infection
   .
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak: POD 8, Intraoperative findings of perforated gallbladder with
   abscess.  S/p ERCP & CBD stent placement on [**3-9**] for bile leak at
   operative site. CT abdomen/pelvis demonstrates only stranding at site
   of procedure and pancreatitis, but no fluid collection. All cultures
   negative to date except alpha strep from operative cultures. WBC was
   trending down, today slightly elevated from 11.9
 14.8.  Patient spiked
   temp to 103F (?PNA vs biliary source vs line infection; NMS or felt to
   be less likely). On Ciprofloxacin day 2, Flagyl, day 9, Zosyn day 1.
   On [**2174-3-14**], vanco and cefepime were discontinued after 7 days.
   - F/U GI & Surgery recs
   - Monitor JP drainage, d/w surgery parameters to pull drain & Dobhoff
   placement
   - F/U culture data, blood and urine cultures pending.
   - Continue cipro/flagyl/zosyn; add back vanco.
   - Trend WBC
   .
   # Respiratory Failure:  Attempting to decrease amounts of
   Fentanyl/Versed for sedation.  Added haldol.
   - SBT this morning
   - Diuresed well on Lasix gtt in an effort to improve pulmonary
   function.
   - Sepsis now likely to prolong vent course.
   # Acute on Chronic Systolic Heart Failure: Per TTE [**3-10**], EF 15-20% with
   LV dilatation. Cardiologist felt imaging was consistent with a DCM from
   EtOH.  LBBB pattern on ECG present at OSH admission with negative CEs,
   but age unknown.
   - try restarting Carvedilol once BP stable, restarting bb should
   potentially increase filling time and CO
   - holding home Torsemide given ARF and then lasix gtt.
   - Holding home ACE given BP
   - Outpatient cardiology follow-up for evaluation for pacemaker
   .
   # Leukocytosis:  WBC 28.8 post op, 14.8 this AM.
   - Infectious workup as above.
   - Send C.diff
   .
   # Anemia of chronic inflammation:  Hct stable from presentation at
   37.0. Iron studies support anemia of chronic disease.
   - Trend Hct
   .
   # Colitis: Etiology unknown. Patient currently without diarrhea or
   BRBPR.
   - Hold ASAcol for now in context of acute heptic/biliary process.
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition:
   Tube feeds per nutrition: Peptamen 1.5 (Full) - [**2174-3-14**] 04:55 PM 20
   mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Arterial Line - [**2174-3-9**] 10:45 PM
   18 Gauge - [**2174-3-12**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Patient
   Code status: Full code
   Disposition: ICU

2174-03-17 07:14:00 Physician Resident Progress Note
Chief Complaint: CC: Abdominal Pain
   Reason for [**Hospital Unit Name 4**] Admission: Respratory Failure, Sepsis
   24 Hour Events:
   - sputum culture sent
   - TF's held given increase in Lipase
   - pharm about concentrating abx --> can concentrate Vancomycin, nothing
   else, most of his fluid is sedatives for vent
   - started Vancomycin
   - RUQ --> no abscess
   - JP not putting out per surgery, so got a CT abdomen (concerned for
   biloma) & CTA chest (pre-hydrated w/ mucomyst) --> showed interval
   organization of fluid collections within the gallbladder fossa, right
   anterior abdominal wall musculature, and along the right anterior
   peritoneal surface, no PE
   - replaced A-line
   - temporarily stopped levophed, sbp's off pressors ranged high 60's to
   mid 70's, so restarted
   - patient began having lots of stool output, C. diff sent, flexiseal
   placed
 ARTERIAL LINE - START [**2174-3-16**] 02:39 PM
 STOOL CULTURE - At [**2174-3-16**] 06:54 PM
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2174-3-15**] 06:00 PM
   Vancomycin - [**2174-3-16**] 08:48 PM
   Ciprofloxacin - [**2174-3-16**] 10:23 PM
   Metronidazole - [**2174-3-16**] 11:32 PM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-17**] 04:31 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-3-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2174-3-16**] 11:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-17**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (98.9
   HR: 110 (91 - 122) bpm
   BP: 93/63(74) {70/49(56) - 139/111(120)} mmHg
   RR: 19 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
    CVP: 17 (14 - 18)mmHg
   Total In:
                                                                  2,903 mL
                                                                    302 mL
   PO:
   TF:
                                                                    538 mL
   IVF:
                                                                  2,305 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                  1,995 mL
                                                                    420 mL
   Urine:
                                                                  1,695 mL
                                                                    410 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
                                                                     10 mL
   Balance:
                                                                    908 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 608 (403 - 608) mL
   PS : 12 cmH2O
   RR (Spontaneous): 17
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 96%
   ABG: 7.42/54/65/31/8
   Ve: 9.1 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General: Intubated, mildly sedated, but opens eyes and moves
   extremities to command
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   rhonchi
   CV: Distant heart sounds, [**2-12**] holosystolic murmur. No rubs or gallops.
   Abdomen:  Bowel sounds present, interval decrease in abdominal
   distention, RUQ tenderness. Distal incision site in RUQ covered with
   CDI dressing, no e/o infection.  RUQ JP drain with minimal amount of
   clear brown fluid.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   678 K/uL
   10.5 g/dL
   136 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.2 mEq/L
   19 mg/dL
   101 mEq/L
   140 mEq/L
   32.6 %
   12.1 K/uL
        [image002.jpg]
                             [**2174-3-14**]  05:50 PM
                             [**2174-3-15**]  03:00 AM
                             [**2174-3-15**]  01:50 PM
                             [**2174-3-15**]  11:26 PM
                             [**2174-3-16**]  04:15 AM
                             [**2174-3-16**]  03:30 PM
                             [**2174-3-16**]  03:53 PM
                             [**2174-3-16**]  04:57 PM
                             [**2174-3-16**]  07:21 PM
                             [**2174-3-17**]  04:01 AM
   WBC
   14.2
   14.8
   12.8
   12.1
   Hct
   32.1
   34.0
   33.6
   32.6
   Plt
   584
   674
   681
   678
   Cr
   0.9
   0.8
   0.9
   1.0
   1.1
   1.1
   TCO2
   39
   37
   36
   36
   Glucose
   159
   126
   135
   182
   146
   136
   Other labs: PT / PTT / INR:16.2/27.8/1.4, ALT / AST:[**12-18**], Alk Phos / T
   Bili:67/0.3, Amylase / Lipase:99/147, Differential-Neuts:68.5 %,
   Band:0.0 %, Lymph:19.0 %, Mono:7.1 %, Eos:5.0 %, Lactic Acid:0.9
   mmol/L, Albumin:3.1 g/dL, LDH:156 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.3 mg/dL
   Micro:
   [1][**2174-3-16**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-PENDING
   INPATIENT
   [2][**2174-3-16**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [3][**2174-3-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2174-3-15**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [5][**2174-3-15**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [6][**2174-3-13**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   Assessment and Plan
   61M with ETOH and cocaine abuse per report, CHF with EF 15%, now
   transferred from OSH s/p surgical management for gangrenous and
   perforated gall bladder with suspected complication of bile leak,
   transferred for ERCP, now with hypoxia, hypotension requiring pressor
   support
   .
   # Hypotension/Sepsis: Started on levophed on [**3-16**] given SBPs in the
   70s, attempts to wean unsuccessful. Most likely source is gallbladder
   given recent surgery.  CT results suggest possible recurrent bile
   leak.  Surgery recommends IR drainage. Other possible surce of
   infection could be pulmonary given neew hypoxia and increased net
   requirements, but sputum gram stain negative and CTA yesterday did not
   demonstrate any focal process.  Pancreatitis also a concern given
   recent ERCP, and lipase persistently elevated, but stable since
   procedure.  Also with diarrhea yesterday, C. Diff sent.  Leukocytosis
   stable.  Lasix off since yesterday. UOP has been wnl.
   - IR consult for possible drainage of fluid collection.
   - Blood pending, sputumcx pending, C. Diff toxin pending
   - Continue vanc/cipro/flagyl/zosyn.
   - D/c tube feeds and trend lipase
   - monitoring via arterial line
   .
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak, now with fluid collection on CT: POD 9, Intraoperative findings
   of perforated gallbladder with abscess.  S/p ERCP & CBD stent placement
   on [**3-9**] for bile leak at operative site. CT abdomen/pelvis demonstrates
   only stranding at site of procedure and pancreatitis, but no fluid
   collection. All cultures negative to date except alpha strep from
   operative cultures. WBC was trending down, today slightly elevated from
   11.9
 14.8.  Patient spiked temp to 103F (?PNA vs biliary source vs
   line infection; NMS or felt to be less likely). On Ciprofloxacin day 4,
   Flagyl, day 5, Zosyn day 2.  On [**2174-3-14**], vanco and cefepime were
   discontinued after 7 days.  Vanco restarted [**2174-3-16**], day 2.
   - F/U GI & Surgery recs
   - Monitor JP drainage
   - F/U culture data, blood and urine cultures pending.
   - Continue vanc/cipro/flagyl/zosyn
   - Trend WBC
   .
   # Respiratory Failure: Increased FiO2 and PEEP yesterday.  Also
   increased sedation.  CTA did not show any infectious process, sputum
   gram stain negative, cultures pending.  Unable to diurese 2/2 blood
   pressure
   - Diuresed well on Lasix gtt in an effort to improve pulmonary
   function.
   - Sepsis now likely to prolong vent course.
   # Acute on Chronic Systolic Heart Failure: Per TTE [**3-10**], EF 15-20% with
   LV dilatation. Cardiologist felt imaging was consistent with a DCM from
   EtOH.  LBBB pattern on ECG present at OSH admission with negative CEs,
   but age unknown.  Goal is to diurese and restart BB, but blood pressure
   has been low.
   - try restarting Carvedilol once BP stable, restarting bb should
   potentially increase filling time and CO
   - holding home Torsemide given ARF and then lasix gtt.
   - Holding home ACE given BP
   - Outpatient cardiology follow-up for evaluation for pacemaker
   .
   # Leukocytosis:  WBC 28.8 post op, 12.1 this AM.
   - Infectious workup as above.
   - Send C.diff
   .
   # Anemia of chronic inflammation:  Hct stable from presentation at
   37.0. Iron studies support anemia of chronic disease.
   - Trend Hct
   .
   # Colitis: Etiology unknown. Patient currently without diarrhea or
   BRBPR.
   - Hold ASAcol for now in context of acute heptic/biliary process.
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition:
   Comments: Holding tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Arterial Line - [**2174-3-16**] 02:39 PM
   20 Gauge - [**2174-3-16**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);

2174-03-18 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - surgery: explored wound, no superficial infection, didn't think there
   was anything to drain internally, didn't think sepsis was caused by
   biliary site.  This morning, surgery attempted to aspirate deeper under
   the surgical wound, but was not able to obtain any fluid. No evidence
   of purulent material.
   - IR: can't drain fluid collections given small size.
   - spiked T 101.5 at 8PM, sent blood, urine, stool
   - persistently hypoxic to high 80s on PS [**12-18**], got CXR, changed to AC
   500/16/12/50 -> sats 95%
   -Most recent gas: 7.43/ 45/ 73 / 31
   -Continues on levophed at 0.6 mg/kg/min.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2174-3-15**] 06:00 PM
   Vancomycin - [**2174-3-17**] 08:20 PM
   Ciprofloxacin - [**2174-3-17**] 09:29 PM
   Metronidazole - [**2174-3-17**] 11:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-18**] 04:08 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-17**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-18**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.5
C (99.5
   HR: 100 (75 - 110) bpm
   BP: 93/62(73) {78/56(67) - 113/69(81)} mmHg
   RR: 16 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,980 mL
                                                                    308 mL
   PO:
             TF:
   IVF:
                                                                  1,810 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    322 mL
   Urine:
                                                                  1,160 mL
                                                                    322 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                    810 mL
                                                                    -14 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 477 (477 - 537) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/45/73.[**Numeric Identifier 252**]/30/4
   Ve: 7.9 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General: Intubated, sedated, opens eyes , not following commands
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   rhonchi
   CV: Distant heart sounds, [**2-12**] holosystolic murmur. No rubs or gallops.
   Abdomen:  hypoactive BS, stable abdominal distention, pt does not
   respond/appear in pain to  palpation of abdomen. Distal incision site
   in RUQ covered with CDI dressing and packed, no e/o infection.  RUQ JP
   drain with minimal amount of clear brown fluid.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   571 K/uL
   10.6 g/dL
   148 mg/dL
   1.1 mg/dL
   30 mEq/L
   3.9 mEq/L
   17 mg/dL
   100 mEq/L
   138 mEq/L
   34.0 %
   10.6 K/uL
                             [**2174-3-16**]  03:53 PM
                             [**2174-3-16**]  04:57 PM
                             [**2174-3-16**]  07:21 PM
                             [**2174-3-17**]  04:01 AM
                             [**2174-3-17**]  01:34 PM
                             [**2174-3-17**]  08:31 PM
                             [**2174-3-17**]  08:53 PM
                             [**2174-3-17**]  09:45 PM
                             [**2174-3-18**]  03:53 AM
                             [**2174-3-18**]  04:37 AM
   WBC
   12.1
   10.6
   Hct
   32.6
   34.0
   Plt
   678
   571
   Cr
   1.1
   1.2
   1.1
   TCO2
   37
   36
   36
   32
   34
   36
   31
   Glucose
   136
   184
   148
   Other labs: PT / PTT / INR:16.6/28.4/1.5, ALT / AST:[**10-20**], Alk Phos / T
   Bili:61/0.4, Amylase / Lipase:143/200, Differential-Neuts:72.4 %,
   Band:0.0 %, Lymph:16.4 %, Mono:6.1 %, Eos:4.9 %, Lactic Acid:0.9
   mmol/L, Albumin:2.9 g/dL, LDH:170 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.8 mg/dL
   Imaging: CT Torso [**3-16**] (final):
   IMPRESSIONS:
   1. Status post cholecystectomy, with interval organization of fluid
   collections within the gallbladder fossa, right anterior abdominal wall
   musculature, and along the right anterior peritoneal surface. Biliary
   stent and right upper quadrant surgical drain remain in place.
   2. No pulmonary embolism seen. Bilateral small pleural effusions, with
   atelectasis in the lung bases. Patient is intubated, with small amount
   of debris noted within right large and smaller airways.
   3. Given emphysema, 2-mm pulmonary nodule should be re-evaluated by CT
   chest in 12 months.
   CXR [**2174-3-18**]: my read: no significant interval change.
   Microbiology: Cdiff negative x 2
   Sputum NG
   Blood cultures NG since [**3-9**]
   Urine pending
   Assessment and Plan
   61M with ETOH and cocaine abuse and CHF (EF 15%), transferred from OSH
   s/p open CCY for gangrenous and perforated gall bladder with suspected
   complication of bile leak s/p ERCP and stenting. Admitted for hypoxia
   and hypotension requiring pressor support. Continues to spike fevers
   with no clear source of infection.
   .
   # Hypotension/Fever: Started on levophed on [**3-16**] given SBPs in the 70s,
   attempts to wean unsuccessful. Most likely source is gallbladder given
   recent surgery.  CT results suggest more organized fluid collections in
   gall bladder fossa.  Surgery recommended IR drainage but they are
   unable d/t small size of collection. Other infectious etiologies
   considered are pulmonary (sputum NG, CXR and CTA without e/o
   infection),  pancreatitis given recent ERCP and Lipase of 200, cdiff
   given diarrhea (negative x 2), line infection but no blood cltxs with
   NG since [**3-9**], wound infection (no e/o of infection despite
   exploration).  Leukocytosis has resolved with WBC of 10 today.  Lasix
   off since [**3-16**]. UOP has been wnl but decreased overnight slightly to 50
   ccs per hour.  Other causes of fever considered include pulmonary
   embolism (CTA negative), atelectasis, medications (off cephalosporins
   since [**3-14**]).
   - Blood and urine cultures pending.
   - Continue vanc/cipro/flagyl/zosyn.
   - Hold tube feeds and trend lipase
   - monitoring via arterial line
   - wean levophed as tolerated
   .
   #Hypoxic Respiratory Failure: Possible etiologies include: decreased
   respiratory drive (sedatives, CNS infection, CNS infarct), worsening
   COPD or atelectasis, pulmonary edema (although diuresed well and no
   acute change seen on CXR), PNA (no e/o PNA on imaging or sputum
   cultures). Increased FiO2 and PEEP [**3-16**], also increased sedation.  CTA
   did not show any infectious process, sputum gram stain negative,
   cultures pending.  Unable to diurese 2/2 blood pressure.
   - Sepsis now likely to prolong vent course.
   - Most likely, increased sedative requirement is contributing to
   decreased respiratory drive and hypoxemia. However, may be prudent to
   rule out CNS source with head CT  and LP.
   .
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak, now with fluid collection on CT: POD 10, Intraoperative findings
   of perforated gallbladder with abscess.  S/p ERCP & CBD stent placement
   on [**3-9**] for bile leak at operative site. CT abdomen/pelvis demonstrates
   only stranding at site of procedure and pancreatitis, but no fluid
   collection. All cultures negative to date except alpha strep from
   operative cultures. WBC 10.0 today. On Ciprofloxacin day 4, Flagyl, day
   5, Zosyn day 2.  On [**2174-3-14**], vanco and cefepime were discontinued after
   7 days.  Vanco restarted [**2174-3-16**], day 2.
   - F/U GI & Surgery recs
   - Monitor JP drainage
   - F/U culture data, blood and urine cultures pending.
   - Continue vanc/cipro/flagyl/zosyn
   - Trend WBC
   .
   # Acute on Chronic Systolic Heart Failure: Per TTE [**3-10**], EF 15-20% with
   LV dilatation. Cardiologist felt imaging was consistent with a DCM from
   EtOH.  LBBB pattern on ECG present at OSH admission with negative CEs,
   but age unknown.  Goal is to diurese and restart BB, but blood pressure
   has been low.
   - try restarting Carvedilol once BP stable, restarting bb should
   potentially increase filling time and CO
   - holding home Torsemide given ARF and then lasix gtt.
   - Holding home ACE given BP
   - Outpatient cardiology follow-up for evaluation for pacemaker
   .
   # Anemia of chronic inflammation:  Hct stable over last several days.
   Iron studies support anemia of chronic disease.
   - Trend Hct
   .
   # Colitis: Etiology unknown. Diarrhea again last night.
   - Hold ASAcol for now in context of acute heptic/biliary process.
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition:
   Comments: Holding tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Arterial Line - [**2174-3-16**] 02:39 PM
   20 Gauge - [**2174-3-16**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  [**3-17**]
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Arterial Line - [**2174-3-16**] 02:39 PM
   20 Gauge - [**2174-3-16**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:
   Code status: Full code
   Disposition:

2174-03-19 07:29:00 Physician Resident Progress Note
Chief Complaint: bile leak, septic shock
   24 Hour Events:
   -weaned off of levophed around 5 PM.
   -on PSV 12/12 as of 4 PM.
   -Random cortisol: 14.3 (wnl). Checked bc were considering initiating
   steroids to hopefully accelerate wean off of levophed.
   -ABG at 4 PM on PSV: 7.46/51/94
   -noted to have trunkal macular erythematous rash ~10PM. Appeared to be
   drug rash. D/cd zosyn and started meropenem. (pt has known drug allergy
   with cephalosporins)
   -Given 500 mL NS bolus o/n for decreased UOP to 30cc/hr, with
   improvement to 80cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-3-18**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-18**] 08:00 PM
   Ciprofloxacin - [**2174-3-18**] 11:00 PM
   Metronidazole - [**2174-3-19**] 12:53 AM
   Meropenem - [**2174-3-19**] 06:02 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2174-3-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-19**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.8
C (98.3
   HR: 112 (77 - 112) bpm
   BP: 101/58(79) {80/47(56) - 112/79(83)} mmHg
   RR: 17 (11 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
    CVP: 8 (7 - 10)mmHg
   Total In:
                                                                  1,776 mL
                                                                  1,095 mL
   PO:
   TF:
                                                                      7 mL
                                                                    174 mL
   IVF:
                                                                  1,679 mL
                                                                    921 mL
   Blood products:
   Total out:
                                                                  1,567 mL
                                                                    420 mL
   Urine:
                                                                  1,117 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                    209 mL
                                                                    675 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 453 (402 - 735) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.46/49/58/31/9
   Ve: 12.6 L/min
   PaO2 / FiO2: 116
   Physical Examination
   General: Intubated, opens eyes , not following commands, moving all
   extremities
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: Diffuse rhonchi anteriorly, no wheezes
   CV: Distant heart sounds, [**2-12**] holosystolic murmur. No rubs or gallops.
   Abdomen:  hypoactive BS, stable abdominal distention, pt does not
   respond/appear in pain to  palpation of abdomen. Distal incision site
   in RUQ covered with CDI dressing and packed, no e/o infection
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   521 K/uL
   8.6 g/dL
   110 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.3 mEq/L
   16 mg/dL
   103 mEq/L
   141 mEq/L
   27.4 %
   9.6 K/uL
        [image002.jpg]
                             [**2174-3-17**]  04:01 AM
                             [**2174-3-17**]  01:34 PM
                             [**2174-3-17**]  08:31 PM
                             [**2174-3-17**]  08:53 PM
                             [**2174-3-17**]  09:45 PM
                             [**2174-3-18**]  03:53 AM
                             [**2174-3-18**]  04:37 AM
                             [**2174-3-18**]  05:07 PM
                             [**2174-3-18**]  11:32 PM
                             [**2174-3-19**]  03:26 AM
   WBC
   12.1
   10.6
   9.6
   Hct
   32.6
   34.0
   27.4
   Plt
   [**Telephone/Fax (3) 11943**]
   Cr
   1.1
   1.2
   1.1
   1.1
   TCO2
   32
   34
   36
   31
   37
   36
   Glucose
   136
   184
   148
   110
   Other labs: PT / PTT / INR:16.6/28.4/1.5, ALT / AST:[**9-19**], Alk Phos / T
   Bili:61/0.4, Amylase / Lipase:110/149, Differential-Neuts:72.4 %,
   Band:0.0 %, Lymph:16.4 %, Mono:6.1 %, Eos:4.9 %, Lactic Acid:0.9
   mmol/L, Albumin:2.9 g/dL, LDH:170 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   Microbiology: Cdiff negative x 2
   Blood cultures pending
   Urine culture negative
   Assessment and Plan
   61M with ETOH and cocaine abuse and CHF (EF 15%), transferred from OSH
   s/p open CCY for gangrenous and perforated gall bladder with suspected
   complication of bile leak s/p ERCP and stenting. Admitted for hypoxia
   and hypotension requiring pressor support. Continues to spike fevers
   with no clear source of infection.
   .
   # Hypotension/Fever: Started on levophed on [**3-16**] given SBPs in the 70s,
   successfully weaned off [**3-18**] afternoon. Most likely source is
   gallbladder given recent surgery.  CT results suggest more organized
   fluid collections in gall bladder fossa.  Surgery recommended IR
   drainage but they are unable d/t small size of collection. Other
   infectious etiologies considered are pulmonary (sputum NG, CXR and CTA
   without e/o infection),  pancreatitis given recent ERCP and Lipase of
   200, cdiff given diarrhea (negative x 2), line infection but no blood
   cltxs with NG since [**3-9**], wound infection (no e/o of infection despite
   exploration).  Leukocytosis has resolved with WBC of 10 today.  Lasix
   off since [**3-16**]. UOP has been wnl but decreased overnight slightly to 50
   ccs per hour.  Other causes of fever considered include pulmonary
   embolism (CTA negative), atelectasis, medications (off cephalosporins
   since [**3-14**]). Given new rash, pt may have also had drug reaction to
   Zosyn.
   - Blood and urine cultures pending.
   - Continue vanc/cipro/flagyl. Zosyn changed to meropenem on [**3-18**].
   - Continue tube feeds but trend lipase
   - monitoring via arterial line
   .
   #Hypoxic Respiratory Failure: Possible etiologies include: decreased
   respiratory drive (sedatives, CNS infection, CNS infarct), worsening
   COPD or atelectasis, pulmonary edema (although diuresed well and no
   acute change seen on CXR), PNA (no e/o PNA on imaging or sputum
   cultures). Have been attempting to wean sedation, pt now on PSV 12/12.
   CTA did not show any infectious process, sputum gram stain negative,
   cultures pending.  Unable to diurese 2/2 blood pressure.
   - Sepsis now likely to prolong vent course.
   - Most likely, increased sedative requirement was contributing to
   decreased respiratory drive and hypoxemia earlier.  Patient doing well
   on PSV since yesterday, so will defer ruling out CNS source with head
   CT and LP for now.
   .
   # Anemia: Patient noted to have a HCT drop of ~7 points since yesterday
   from 34
 27.4 (MCV 92). Prior iron studies support anemia of chronic
   disease; since admission, patient
s HCT has been stable in low 30s.  No
   evidence of bleeding. Surgical wound without drainage or e/o bleed. Pt
   HD stable o/n.
   -Will check LDH, haptoglobin, bilirubin.  Given rash and recent Zosyn
   administration, most likely secondary to drug effect, although this is
   usually seen after prolonged therapy courses.
   -Trend HCT now off Zosyn
   -Guaiac stool
   .
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak, now with fluid collection on CT: POD 10, Intraoperative findings
   of perforated gallbladder with abscess.  S/p ERCP & CBD stent placement
   on [**3-9**] for bile leak at operative site. CT abdomen/pelvis demonstrates
   only stranding at site of procedure and pancreatitis, but no fluid
   collection. All cultures negative to date except alpha strep from
   operative cultures. WBC 10.0 today. On Ciprofloxacin day 4, Flagyl, day
   5, Meropenem day 1 (d/cd Zosyn after 2 days on [**3-18**]).  On [**2174-3-14**], vanco
   and cefepime were discontinued after 7 days.  Vanco restarted [**2174-3-16**],
   day 2.
   - F/U GI & Surgery recs
   - Monitor JP drainage
   - F/U culture data, blood and urine cultures pending.
   - Continue vanc/cipro/flagyl/[**Last Name (un) **]
   - Trend WBC
   .
   #Rash: maculopapular trunkal rash noted on evening of [**3-18**] after 48
   hours administration of Zosyn.  Thought to be drug allergy response.
   D/cd Zosyn with some resolution of rash this morning. Will monitor
   patient now on Meropenem.
   .
   # Acute on Chronic Systolic Heart Failure: Per TTE [**3-10**], EF 15-20% with
   LV dilatation. Cardiologist felt imaging was consistent with a DCM from
   EtOH.  LBBB pattern on ECG present at OSH admission with negative CEs,
   but age unknown.  Goal is to diurese and restart BB, but blood pressure
   has been low.
   - try restarting Carvedilol once BP stable, restarting bb should
   potentially increase filling time and CO
   - holding home Torsemide given ARF and then lasix gtt.
   - Holding home ACE given BP
   - Outpatient cardiology follow-up for evaluation for pacemaker
   .
   # Colitis: Etiology unknown. Diarrhea again last night, if persists,
   may consider restarting his home asacol.
   - Hold asacol for now.
   .
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Arterial Line - [**2174-3-16**] 02:39 PM
   20 Gauge - [**2174-3-16**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  [**3-17**]
   Code status: Full code
   Disposition: ICU

2174-03-19 10:23:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -ZOsyn discontinued in the setting of evolution of rash
   -Urine output maintained at 80cc/hr
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-3-18**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-18**] 08:00 PM
   Ciprofloxacin - [**2174-3-18**] 11:00 PM
   Meropenem - [**2174-3-19**] 06:02 AM
   Metronidazole - [**2174-3-19**] 08:41 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-19**] 08:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2174-3-19**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.9
C (100.3
   HR: 112 (77 - 112) bpm
   BP: 97/54(68) {75/46(55) - 131/5,547(112)} mmHg
   RR: 16 (11 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
   CVP: 8 (7 - 10)mmHg
   Total In:
                                                                  1,776 mL
                                                                  1,307 mL
   PO:
   TF:
                                                                      7 mL
                                                                    247 mL
   IVF:
                                                                  1,679 mL
                                                                  1,059 mL
   Blood products:
   Total out:
                                                                  1,567 mL
                                                                    540 mL
   Urine:
                                                                  1,117 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                    209 mL
                                                                    767 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 453 (402 - 735) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 95%
   ABG: 7.46/49/58/31/9
   Ve: 12.6 L/min
   PaO2 / FiO2: 116
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Tender: , wound--open, packed, no
   evidence of infection.
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed, moving all extremities, not responding to verbal
   stimuli
Patient does respond but not organized to voice commands.  He
   clearly moves all extermities.  He does have 8-9 beats of clonus in the
   lower extremeties but bilateral and normal reflexes seen.  He is not
   able to follow commands to evaluate motor strength well but do have
   reasonable normal tone.
   Labs / Radiology
   8.6 g/dL
   521 K/uL
   110 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.3 mEq/L
   16 mg/dL
   103 mEq/L
   141 mEq/L
   27.4 %
   9.6 K/uL
        [image002.jpg]
                             [**2174-3-17**]  04:01 AM
                             [**2174-3-17**]  01:34 PM
                             [**2174-3-17**]  08:31 PM
                             [**2174-3-17**]  08:53 PM
                             [**2174-3-17**]  09:45 PM
                             [**2174-3-18**]  03:53 AM
                             [**2174-3-18**]  04:37 AM
                             [**2174-3-18**]  05:07 PM
                             [**2174-3-18**]  11:32 PM
                             [**2174-3-19**]  03:26 AM
   WBC
   12.1
   10.6
   9.6
   Hct
   32.6
   34.0
   27.4
   Plt
   [**Telephone/Fax (3) 11943**]
   Cr
   1.1
   1.2
   1.1
   1.1
   TCO2
   32
   34
   36
   31
   37
   36
   Glucose
   136
   184
   148
   110
   Other labs: PT / PTT / INR:16.6/28.4/1.5, ALT / AST:[**9-19**], Alk Phos / T
   Bili:61/0.4, Amylase / Lipase:110/149, Differential-Neuts:72.4 %,
   Band:0.0 %, Lymph:16.4 %, Mono:6.1 %, Eos:4.9 %, Lactic Acid:0.9
   mmol/L, Albumin:2.9 g/dL, LDH:170 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   Microbiology: Only alpha strep noted at orginal surgery
   Assessment and Plan
   61 yo with EtOH abuse, Cocaine abuse and admitted with bile leak and
   now s/p stent who not has had continued fevers in the setting of
   treatment for known sources of sepsis.  He has had continued empiric
   antibiotics for possible sources but have failed to define clear source
   in terms of cultures but intra-abdominal source is clearly original
   source
   1)SEPSIS-Levophed weaned to off and able to complete wean over past 24
   hours.  Will have to continue to monitor cultures.
   -Cipro/Flagyl/Vanco
   -Source appears to be intra-abdominal insult given bile leak and open
   CCY conducted with gangrenous gallbladder.
   -We have now reasonable course of Vanco/Cipro/Flagyl continuing
   -Will follow culture results
   -If results negative and fever controlled and down to normal WBC count
   and given rash and increased EOS may have to move to trail off of
   antibiotics if surgical team/GI team comfortable and fever presists.
   2)RENAL FAILURE-Improved Cr at this time
   3)RESPIRATORY FAILURE
Patient with persistent hypoxemia seen in this
   setting with PO2=58 and significant aniong gap noted.  We have had PEEP
   up at relatively elevated levels but at this time abdomen is soft and
   hope to be able to wean.
   -Will wean PEEP to 8 today and re-evaluate tolerance as we do have
   persistent hypoxia
   -We do have a background of liver disease but not to the extent that
   would be classic for hepato-pulmonary syndrome
   -Will need to continue to lighten sedation and allow patient to wake up
   -Will start amitryptalline/scopalamine to aid with oral secretions
   -Continue with PSV today
   -For hypoxia
COPD,  Atelectasis, possible intra/extrapulmonary shunt
   but not clearly defined
   -Will follow wean with ABG
s today and hope to maintain stable
   ventilation on PSV=5 and will hope to eliminate oral secretions and be
   left with management of hypoxia as primary barrier to extubation  as we
   move through the next 24 hours.
   4)Anemia
Source not clear, will follow HCT and consider possible GI
   losses
   -HCT q 8 hours today
   -Transfuse for continued trend down
   -Will need to evalaute.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2174-3-18**] 11:20 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Arterial Line - [**2174-3-16**] 02:39 PM
   20 Gauge - [**2174-3-16**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2174-03-20 07:58:00 Physician Resident Progress Note
Chief Complaint: CC: Abdominal Pain
   [**Hospital Unit Name 4**] Admission: Gangrenous cholecystitis, s/p cholecystectomy, sepsis
   24 Hour Events:
   - on PSV weaning PEEP for trial extubation
   - rash better, [**Last Name (un) **] dc'd as fever thought to be drug related
   - repeat Hct up to 29
   - Cx's NGTD
   - A-line replaced
 BLOOD CULTURED - At [**2174-3-19**] 03:45 PM
   aline
 SPUTUM CULTURE - At [**2174-3-19**] 05:50 PM
 URINE CULTURE - At [**2174-3-19**] 06:00 PM
 ARTERIAL LINE - START [**2174-3-19**] 09:18 PM
 ARTERIAL LINE - STOP [**2174-3-19**] 10:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-18**] 08:00 PM
   Meropenem - [**2174-3-19**] 06:02 AM
   Metronidazole - [**2174-3-19**] 04:00 PM
   Vancomycin - [**2174-3-19**] 07:51 PM
   Ciprofloxacin - [**2174-3-19**] 10:42 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-19**] 04:00 PM
   Midazolam (Versed) - [**2174-3-19**] 07:33 PM
   Fentanyl - [**2174-3-19**] 07:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-20**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100
   HR: 80 (77 - 129) bpm
   BP: 86/45(58) {73/45(58) - 147/79(103)} mmHg
   RR: 31 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
    CVP: 187 (187 - 197)mmHg
   Total In:
                                                                  4,317 mL
                                                                    564 mL
   PO:
   TF:
                                                                  1,033 mL
                                                                    450 mL
   IVF:
                                                                  3,283 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    760 mL
   Urine:
                                                                  1,510 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                  2,797 mL
                                                                   -196 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 233 (166 - 512) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: 7.45/45/101/30/6
   Ve: 11 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General: Intubated, opens eyes , not following commands, moving all
   extremities
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: Diffuse rhonchi anteriorly, no wheezes
   CV: Distant heart sounds, [**2-12**] holosystolic murmur. No rubs or gallops.
   Abdomen:  hypoactive BS, stable abdominal distention, pt does not
   respond/appear in pain to  palpation of abdomen. Distal incision site
   in RUQ covered with CDI dressing and packed, no e/o infection
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   519 K/uL
   8.9 g/dL
   123 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.4 mEq/L
   13 mg/dL
   108 mEq/L
   144 mEq/L
   28.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2174-3-17**]  09:45 PM
                             [**2174-3-18**]  03:53 AM
                             [**2174-3-18**]  04:37 AM
                             [**2174-3-18**]  05:07 PM
                             [**2174-3-18**]  11:32 PM
                             [**2174-3-19**]  03:26 AM
                             [**2174-3-19**]  01:00 PM
                             [**2174-3-19**]  01:17 PM
                             [**2174-3-19**]  11:33 PM
                             [**2174-3-20**]  06:00 AM
   WBC
   10.6
   9.6
   7.2
   Hct
   34.0
   27.4
   29.0
   28.3
   Plt
   [**Telephone/Fax (3) 11963**]
   Cr
   1.1
   1.1
   0.8
   TCO2
   36
   31
   37
   36
   32
   32
   Glucose
   148
   110
   123
   Other labs: PT / PTT / INR:16.6/28.4/1.5, ALT / AST:[**9-19**], Alk Phos / T
   Bili:61/0.2, Amylase / Lipase:110/149, Differential-Neuts:72.4 %,
   Band:0.0 %, Lymph:16.4 %, Mono:6.1 %, Eos:4.9 %, Lactic Acid:0.9
   mmol/L, Albumin:2.9 g/dL, LDH:130 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   61M with ETOH and cocaine abuse and CHF (EF 15%), transferred from OSH
   s/p open CCY for gangrenous and perforated gall bladder with suspected
   complication of bile leak s/p ERCP and stenting. Admitted for hypoxia
   and hypotension requiring pressor support. Continues to spike fevers
   with no clear source of infection.
   .
   # Hypotension/Fever: Started on levophed on [**3-16**] given SBPs in the 70s,
   successfully weaned off [**3-18**] afternoon. Most likely source is
   gallbladder given recent surgery.  CT results suggest more organized
   fluid collections in gall bladder fossa.  Surgery recommended IR
   drainage but they are unable d/t small size of collection. Other
   infectious etiologies considered are pulmonary (sputum NG, CXR and CTA
   without e/o infection),  pancreatitis given recent ERCP and Lipase of
   200, cdiff given diarrhea (negative x 2), line infection but no blood
   cltxs with NG since [**3-9**], wound infection (no e/o of infection despite
   exploration).  Leukocytosis has resolved with WBC of 10 today.  Lasix
   off since [**3-16**]. UOP has been wnl but decreased overnight slightly to 50
   ccs per hour.  Other causes of fever considered include pulmonary
   embolism (CTA negative), atelectasis, medications (off cephalosporins
   since [**3-14**]). Given new rash, pt may have also had drug reaction to
   Zosyn.
   - Blood and urine cultures pending.
   - Continue vanc/cipro/flagyl. Zosyn changed to meropenem on [**3-18**].
   - Continue tube feeds but trend lipase
   - monitoring via arterial line
   .
   #Hypoxic Respiratory Failure: Possible etiologies include: decreased
   respiratory drive (sedatives, CNS infection, CNS infarct), worsening
   COPD or atelectasis, pulmonary edema (although diuresed well and no
   acute change seen on CXR), PNA (no e/o PNA on imaging or sputum
   cultures). Have been attempting to wean sedation, pt now on PSV 12/12.
   CTA did not show any infectious process, sputum gram stain negative,
   cultures pending.  Unable to diurese 2/2 blood pressure.
   - Sepsis now likely to prolong vent course.
   - Most likely, increased sedative requirement was contributing to
   decreased respiratory drive and hypoxemia earlier.  Patient doing well
   on PSV since yesterday, so will defer ruling out CNS source with head
   CT and LP for now.
   # Anemia: Patient noted to have a HCT drop of ~7 points since yesterday
   from 34
 27.4 (MCV 92). Prior iron studies support anemia of chronic
   disease; since admission, patient
s HCT has been stable in low 30s.  No
   evidence of bleeding. Surgical wound without drainage or e/o bleed. Pt
   HD stable o/n.
   -Will check LDH, haptoglobin, bilirubin.  Given rash and recent Zosyn
   administration, most likely secondary to drug effect, although this is
   usually seen after prolonged therapy courses.
   -Trend HCT now off Zosyn
   -Guaiac stool
   .
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak, now with fluid collection on CT: POD 10, Intraoperative findings
   of perforated gallbladder with abscess.  S/p ERCP & CBD stent placement
   on [**3-9**] for bile leak at operative site. CT abdomen/pelvis demonstrates
   only stranding at site of procedure and pancreatitis, but no fluid
   collection. All cultures negative to date except alpha strep from
   operative cultures. WBC 10.0 today. On Ciprofloxacin day 4, Flagyl, day
   5, Meropenem day 1 (d/cd Zosyn after 2 days on [**3-18**]).  On [**2174-3-14**], vanco
   and cefepime were discontinued after 7 days.  Vanco restarted [**2174-3-16**],
   day 2.
   - F/U GI & Surgery recs
   - Monitor JP drainage
   - F/U culture data, blood and urine cultures pending.
   - Continue vanc/cipro/flagyl/[**Last Name (un) **]
   - Trend WBC
   .
   #Rash: maculopapular trunkal rash noted on evening of [**3-18**] after 48
   hours administration of Zosyn.  Thought to be drug allergy response.
   D/cd Zosyn with some resolution of rash this morning. Will monitor
   patient now on Meropenem.
   .
   # Acute on Chronic Systolic Heart Failure: Per TTE [**3-10**], EF 15-20% with
   LV dilatation. Cardiologist felt imaging was consistent with a DCM from
   EtOH.  LBBB pattern on ECG present at OSH admission with negative CEs,
   but age unknown.  Goal is to diurese and restart BB, but blood pressure
   has been low.
   - try restarting Carvedilol once BP stable, restarting bb should
   potentially increase filling time and CO
   - holding home Torsemide given ARF and then lasix gtt.
   - Holding home ACE given BP
   - Outpatient cardiology follow-up for evaluation for pacemaker
   .
   # Colitis: Etiology unknown. Diarrhea again last night, if persists,
   may consider restarting his home asacol.
   - Hold asacol for now.
   .
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition: Tubefeeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   20 Gauge - [**2174-3-16**] 03:30 PM
   Arterial Line - [**2174-3-19**] 09:18 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2174-03-20 10:56:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   Congestive Heart Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2174-3-19**] 03:45 PM
   aline
 SPUTUM CULTURE - At [**2174-3-19**] 05:50 PM
 URINE CULTURE - At [**2174-3-19**] 06:00 PM
 ARTERIAL LINE - START [**2174-3-19**] 09:18 PM
 ARTERIAL LINE - STOP [**2174-3-19**] 10:00 PM
   -PSV weaned to [**5-14**]
   -antibiotics stopped with negative culture to date and rash and EOS
   count increasing concern for medication source of fevers.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-18**] 08:00 PM
   Meropenem - [**2174-3-19**] 06:02 AM
   Metronidazole - [**2174-3-19**] 04:00 PM
   Vancomycin - [**2174-3-19**] 07:51 PM
   Ciprofloxacin - [**2174-3-19**] 10:42 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-19**] 04:00 PM
   Midazolam (Versed) - [**2174-3-19**] 07:33 PM
   Fentanyl - [**2174-3-19**] 07:33 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-20**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (99
   HR: 80 (77 - 129) bpm
   BP: 86/45(58) {73/45(58) - 147/79(103)} mmHg
   RR: 31 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
   CVP: 187 (187 - 197)mmHg
   Total In:
                                                                  4,317 mL
                                                                    605 mL
   PO:
   TF:
                                                                  1,033 mL
                                                                    450 mL
   IVF:
                                                                  3,283 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    850 mL
   Urine:
                                                                  1,510 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                  2,797 mL
                                                                   -245 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 233 (166 - 352) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: 7.45/45/101/30/6
   Ve: 11 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   519 K/uL
   123 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.4 mEq/L
   13 mg/dL
   108 mEq/L
   144 mEq/L
   28.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2174-3-17**]  09:45 PM
                             [**2174-3-18**]  03:53 AM
                             [**2174-3-18**]  04:37 AM
                             [**2174-3-18**]  05:07 PM
                             [**2174-3-18**]  11:32 PM
                             [**2174-3-19**]  03:26 AM
                             [**2174-3-19**]  01:00 PM
                             [**2174-3-19**]  01:17 PM
                             [**2174-3-19**]  11:33 PM
                             [**2174-3-20**]  06:00 AM
   WBC
   10.6
   9.6
   7.2
   Hct
   34.0
   27.4
   29.0
   28.3
   Plt
   [**Telephone/Fax (3) 11963**]
   Cr
   1.1
   1.1
   0.8
   TCO2
   36
   31
   37
   36
   32
   32
   Glucose
   148
   110
   123
   Other labs: PT / PTT / INR:16.6/28.4/1.5, ALT / AST:[**9-19**], Alk Phos / T
   Bili:61/0.2, Amylase / Lipase:110/149, Differential-Neuts:72.4 %,
   Band:0.0 %, Lymph:16.4 %, Mono:6.1 %, Eos:4.9 %, Lactic Acid:0.9
   mmol/L, Albumin:2.9 g/dL, LDH:130 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.7 mg/dL
   Fluid analysis / Other labs: AG-6
   Imaging: CXR-Small areas of basilar atelectasis noted medially.
   Assessment and Plan
   61 yo male with initial admission with bile leak following open CCY and
   now with persistent sepsis and respiratory failure.
   1)Sepsis--clearly with significant insult with intra-abdominal process
   and now has had fever persisting but overall trending down, he has had
   WBC count decreasing and culture results.  Wound exploration completed,
   alternative sources not clearly seen, CVL has been in place
   throughout.  After careful discussion with surgical team have concluded
   on the fact patient is clinically improved patient will have D/C of
   antibiotics after 14 day course
   -Cipro/Vanco/Flagyl to D/C today
   -Will have to pursue restart of broad spectrum antibiotics and pursue
   further imaging for alternative sites of drainage should clinical
   response decline.  Will puruse drainage of fluid collections of
   technically possible or clinical worsening seen.
   -Levophed remains off
   -Follow culture results
   -Drainage to continue
   2)Respiratory Failure-Patient with initial intubation for surgical
   intervention and with persistent intubation in the setting of resolving
   sepsis.  At this point barriers to extubation may be
   A)Altered Mental Status
   B)Congestive Heart Failure
patient without pulmonary edema noted on
   CXR
do not have evidence of total body overload or pulmonary edema
   C)Secreations
better with scopalamine patch at this time
   D)Abdominal Process
Improved exam today and resolved process
   -We have persistent and significant tachypnea with PSV of 5 at 26
   breaths per minute.  We do have ABG with
normal
 CO2 but I would
   suggest that with RR at 26 patient is at the limit in terms of
   respiratory effort and drive to maintain even a reasonable CO2 and this
   is not favorable for successful extubation.  Will need to continue to
   support more fully with
   -Versed 3 and Fentayl IV as needed this morning.
   3)EtOH Abuse-
   -Thiamine to continue
   Additional issues to be addressed as discussed in the housestaff note
   of this date.
   ICU Care
   Nutrition: Tube feeds to continue
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Arterial Line - [**2174-3-19**] 09:18 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2174-03-21 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tolerated SBT well yesterday, plan to stop tube feeds this AM for
   possible trial of extubation
   - all antibiotics were stopped
   - started on methadone in an effort to wean fentanyl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-18**] 08:00 PM
   Meropenem - [**2174-3-19**] 06:02 AM
   Metronidazole - [**2174-3-19**] 04:00 PM
   Vancomycin - [**2174-3-19**] 07:51 PM
   Ciprofloxacin - [**2174-3-19**] 10:42 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-21**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 94 (73 - 116) bpm
   BP: 101/65(75) {84/47(56) - 113/76(84)} mmHg
   RR: 20 (10 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
    CVP: 1 (1 - 9)mmHg
   Total In:
                                                                  1,789 mL
                                                                    207 mL
   PO:
   TF:
                                                                  1,428 mL
   IVF:
                                                                    362 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    710 mL
   Urine:
                                                                  1,525 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                    264 mL
                                                                   -503 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 312 (312 - 699) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 98
   PIP: 6 cmH2O
   SpO2: 97%
   ABG: 7.46/43/62/30/5
   Ve: 8.6 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General: Intubated, opens eyes , not following commands, moving all
   extremities
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: No wheezes
   CV: Distant heart sounds, [**2-12**] holosystolic murmur. No rubs or gallops.
   Abdomen:  hypoactive BS, stable abdominal distention, pt does not
   respond/appear in pain to palpation of abdomen. Distal incision site in
   RUQ covered with CDI dressing and packed, no e/o infection
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   595 K/uL
   9.4 g/dL
   92 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.6 mEq/L
   13 mg/dL
   109 mEq/L
   145 mEq/L
   29.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2174-3-18**]  05:07 PM
                             [**2174-3-18**]  11:32 PM
                             [**2174-3-19**]  03:26 AM
                             [**2174-3-19**]  01:00 PM
                             [**2174-3-19**]  01:17 PM
                             [**2174-3-19**]  11:33 PM
                             [**2174-3-20**]  06:00 AM
                             [**2174-3-20**]  02:31 PM
                             [**2174-3-20**]  08:35 PM
                             [**2174-3-21**]  01:51 AM
   WBC
   9.6
   7.2
   8.3
   Hct
   27.4
   29.0
   28.3
   29.5
   Plt
   521
   519
   595
   Cr
   1.1
   0.8
   0.8
   TCO2
   37
   36
   32
   32
   34
   32
   Glucose
   110
   123
   92
   Other labs: PT / PTT / INR:16.6/28.4/1.5, ALT / AST:[**8-21**], Alk Phos / T
   Bili:49/0.2, Amylase / Lipase:110/149, Differential-Neuts:66.0 %,
   Band:0.0 %, Lymph:21.0 %, Mono:8.0 %, Eos:4.0 %, Lactic Acid:0.9
   mmol/L, Albumin:2.9 g/dL, LDH:162 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.7 mg/dL
   Imaging:
   Microbiology: Urine Cltx pending
   Blood culture pending
   Assessment and Plan
   61M with ETOH and cocaine abuse and CHF (EF 15%), transferred from OSH
   s/p open CCY for gangrenous and perforated gall bladder with suspected
   complication of bile leak s/p ERCP and stenting. Admitted for hypoxia
   and hypotension requiring pressor support. Was spiking fevers with no
   clear source of infection, now improving.
   .
   # Hypotension/Recurrent Fevers: Now off levophed, still with daily
   fever.  Most likely infectious source is biliary, but fluid collections
   too small to drain.  No organisms have ever been isolated from many
   cultures/sites.  Also there is some question of whether he is spiking a
   fever due to drug side effect.  Meropenem stopped yesterday [**2-8**] ? drug
   rash.  His leukocytosis has resolved and has no localizing signs.  Dc
   antibiotics [**2174-3-20**].  If fevers are a drug effect, the fevers should
   stop, if it is infectious, then the infection should present itself
   definitively in the absence of antibiotics.
   - follow cultures
   - follow fever curve
   - Continue tube feeds but trend lipase
   - monitoring via arterial line
   .
   # Hypoxic Respiratory Failure: Secretions decreased on scopolamine
   patch; started methadone in attempt to decrease sedative use.
   Significant progress on weaning ventilator support.  SBT yesterday went
   well, will try for extubation today, as it appears that his
   septic/infectious issues are improving.
   # Anemia: Hct stable today.  Iron studies c/w iron deficiency.
   -Trend HCT
   -Guaiac stool
   .
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak, now with fluid collection on CT: POD 12.  Fluid collections of
   unclear significance.
    -Now off anitbiotics
   - Monitor JP drainage
   - F/U culture data, blood and urine cultures
   - Trend WBC
   .
   #Rash: maculopapular trunkal rash noted on evening of [**3-18**] after 48
   hours administration of Zosyn.  Thought to be drug allergy response.
   D/c
d Zosyn with resolution of rash.
   -          stopped antibiotics
   -          monitor clinically
   .
   # Acute on Chronic Systolic Heart Failure: Per TTE [**3-10**], EF 15-20% with
   LV dilatation. Cardiologist felt imaging was consistent with a DCM from
   EtOH.  LBBB pattern on ECG present at OSH admission with negative CEs,
   but age unknown.  Goal is to diurese and restart BB, but blood pressure
   has been low.
   - restart Carvedilol once BP stable
   - holding home Torsemide given ARF and then lasix gtt.
   - Holding home ACE given BP
   - Outpatient cardiology follow-up for evaluation for pacemaker
   .
   # Colitis: Etiology unknown. Diarrhea again last night, if persists,
   may consider restarting his home asacol.
   - Hold asacol for now.
   .
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition: Tubefeeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   20 Gauge - [**2174-3-16**] 03:30 PM
   Arterial Line - [**2174-3-19**] 09:18 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2174-03-21 09:46:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2174-3-21**] 02:08 AM
   Fentanyl Weaned to off
   Patient with SBT completed this morning
   He has been able to move to negative fluid balance
   Patient with increased activity this morning with movement but limited
   in organized interactions.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-3-18**] 08:00 PM
   Meropenem - [**2174-3-19**] 06:02 AM
   Metronidazole - [**2174-3-19**] 04:00 PM
   Vancomycin - [**2174-3-19**] 07:51 PM
   Ciprofloxacin - [**2174-3-19**] 10:42 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-21**] 08:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2174-3-21**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 102 (73 - 116) bpm
   BP: 104/68(75) {84/47(56) - 113/76(84)} mmHg
   RR: 20 (10 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
   CVP: 12 (1 - 14)mmHg
   Total In:
                                                                  1,789 mL
                                                                    235 mL
   PO:
   TF:
                                                                  1,428 mL
   IVF:
                                                                    362 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    895 mL
   Urine:
                                                                  1,525 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                    264 mL
                                                                   -660 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (312 - 699) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 98
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.46/43/62/30/5
   Ve: 11.7 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, No(t) Sedated, Tone: Not assessed-_Excellent mental status
   this morning
able to follow complex commands easily
   Labs / Radiology
   9.4 g/dL
   595 K/uL
   92 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.6 mEq/L
   13 mg/dL
   109 mEq/L
   145 mEq/L
   29.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2174-3-18**]  05:07 PM
                             [**2174-3-18**]  11:32 PM
                             [**2174-3-19**]  03:26 AM
                             [**2174-3-19**]  01:00 PM
                             [**2174-3-19**]  01:17 PM
                             [**2174-3-19**]  11:33 PM
                             [**2174-3-20**]  06:00 AM
                             [**2174-3-20**]  02:31 PM
                             [**2174-3-20**]  08:35 PM
                             [**2174-3-21**]  01:51 AM
   WBC
   9.6
   7.2
   8.3
   Hct
   27.4
   29.0
   28.3
   29.5
   Plt
   521
   519
   595
   Cr
   1.1
   0.8
   0.8
   TCO2
   37
   36
   32
   32
   34
   32
   Glucose
   110
   123
   92
   Other labs: PT / PTT / INR:16.6/28.4/1.5, ALT / AST:[**8-21**], Alk Phos / T
   Bili:49/0.2, Amylase / Lipase:110/149, Differential-Neuts:66.0 %,
   Band:0.0 %, Lymph:21.0 %, Mono:8.0 %, Eos:4.0 %, Lactic Acid:0.7
   mmol/L, Albumin:2.9 g/dL, LDH:162 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.7 mg/dL
   Imaging: CXR-MIld suggestion of [**Hospital 2388**] medical segment collapse, mild
   decrease in lung volumes,
   Assessment and Plan
   61 yo male admitted following open CCY with presentation with
   gangrenous gallbaldder now with persistent respiratory failure but now
   has had substantial improvement following completion of antibiotic
   course and now has been able to wean down ventilator support to the
   point of successful tolerance of spontaneous breathing trial.
   1)Respiratory Failure-
   -Will move to extubation this morning
   -Will return to labetolol dosing to aid with rate pressure product
   control post exbuation
   -He has excellent mental status, he has decreased sedation, he has
   tolerated SBT well.
   -If pulmonary edema suggested will have to consider CPAP tiral but
   patient may well not tolerate.
   2)Sepsis-
   -ABX discontinued
   -Will need surgical support to consider management of drain and follow
   up treatment/imaging
   3)Congestive Heart Failure-
   -Will return to beta blockade
   -Will use Lasix as needed to maintain stability
   -Will return ACE-I
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Plan discuccsed with patient who appears to
   understand
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2174-03-22 07:25:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] resident progress note
   Chief Complaint:
   24 Hour Events:
   - Extubated successfully
   - Diarrhea ---> Sent c diff
   - Restarted bblocker, but switched to IV (on 7.5 mg IV lopressor QID)
   as pt not taking po yet.
   - Speech and swallow eval pending (had some ?aspiration with sips of
   water earlier in the day)
 INVASIVE VENTILATION - STOP [**2174-3-21**] 09:58 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2174-3-19**] 04:00 PM
   Vancomycin - [**2174-3-19**] 07:51 PM
   Ciprofloxacin - [**2174-3-19**] 10:42 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-3-21**] 10:41 AM
   Lansoprazole (Prevacid) - [**2174-3-21**] 04:13 PM
   Heparin Sodium (Prophylaxis) - [**2174-3-21**] 11:26 PM
   Haloperidol (Haldol) - [**2174-3-22**] 02:00 AM
   Methadone Hydrochloride - [**2174-3-22**] 04:00 AM
   Metoprolol - [**2174-3-22**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-22**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 75 (75 - 117) bpm
   BP: 95/65(72) {92/52(68) - 121/82(92)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
    CVP: 18 (0 - 18)mmHg
   Total In:
                                                                    842 mL
                                                                    193 mL
   PO:
                                                                    210 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    632 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  5,975 mL
                                                                    260 mL
   Urine:
                                                                  5,965 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
                                                                     10 mL
   Balance:
                                                                 -5,133 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 520 (520 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 100%
   SpO2: 99%
   ABG: ///27/
   Ve: 11.7 L/min
   Physical Examination
   General:
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: No wheezes
   CV: Distant heart sounds, [**2-12**] holosystolic murmur. No rubs or gallops.
   Abdomen:  hypoactive BS, stable abdominal distention, pt does not
   respond/appear in pain to palpation of abdomen. Distal incision site in
   RUQ covered with CDI dressing and packed, no e/o infection
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   625 K/uL
   10.2 g/dL
   125 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.5 mEq/L
   11 mg/dL
   107 mEq/L
   144 mEq/L
   32.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2174-3-18**]  11:32 PM
                             [**2174-3-19**]  03:26 AM
                             [**2174-3-19**]  01:00 PM
                             [**2174-3-19**]  01:17 PM
                             [**2174-3-19**]  11:33 PM
                             [**2174-3-20**]  06:00 AM
                             [**2174-3-20**]  02:31 PM
                             [**2174-3-20**]  08:35 PM
                             [**2174-3-21**]  01:51 AM
                             [**2174-3-22**]  01:04 AM
   WBC
   9.6
   7.2
   8.3
   8.4
   Hct
   27.4
   29.0
   28.3
   29.5
   32.4
   Plt
   521
   519
   595
   625
   Cr
   1.1
   0.8
   0.8
   0.8
   TCO2
   36
   32
   32
   34
   32
   Glucose
   110
   123
   92
   125
   Other labs: PT / PTT / INR:14.7/27.8/1.3, ALT / AST:[**9-24**], Alk Phos / T
   Bili:53/0.3, Amylase / Lipase:110/149, Differential-Neuts:67.2 %,
   Band:0.0 %, Lymph:23.0 %, Mono:6.0 %, Eos:3.6 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:149 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.4 mg/dL
   C Diff negative [**3-21**], [**3-17**], 3/10
   [**3-21**] Chest xray:  Indwelling support devices remain in standard
   position. Cardiac silhouette remains enlarged, and there has been
   development of pulmonary vascular congestion. Probable small layering
   right pleural effusion. Adjacent right retrocardiac opacity likely
   represents atelectasis.
   [**3-22**] Chest Xray: Read pending
   Assessment and Plan
   61M with ETOH and cocaine abuse and CHF (EF 15%), transferred from OSH
   s/p open CCY for gangrenous and perforated gall bladder with suspected
   complication of bile leak s/p ERCP and stenting. Admitted for hypoxia
   and hypotension requiring pressor support. Was spiking fevers with no
   clear source of infection, now improving.
   .
   # Hypotension/Recurrent Fevers: Fever curve downtrending.  Most likely
   infectious source is biliary, but fluid collections too small to
   drain.  No organisms have ever been isolated from many cultures/sites.
   Also there is some question of whether he is spiking a fever due to
   drug side effect.  Meropenem stopped yesterday [**2-8**] ? drug rash.  His
   leukocytosis has resolved and has no localizing signs.  Dc
   antibiotics [**2174-3-20**].
   - follow cultures
   - follow fever curve
   - Continue tube feeds but trend lipase
   - monitoring via arterial line
   .
   # Hypoxic Respiratory Failure: Secretions decreased on scopolamine
   patch; started methadone in attempt to decrease sedative use.
   Significant progress on weaning ventilator support.
   .
   # Anemia: Hct stable today.  Iron studies c/w iron deficiency.
   -Trend HCT
   -Guaiac stool
   .
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak, now with fluid collection on CT: POD 12.  Fluid collections of
   unclear significance.
    -Now off anitbiotics
   - Monitor JP drainage
   - F/U culture data, blood and urine cultures
   - Trend WBC
   .
   #Rash: maculopapular trunkal rash noted on evening of [**3-18**] after 48
   hours administration of Zosyn.  Thought to be drug allergy response.
   D/c
d Zosyn with resolution of rash.
   - stopped antibiotics
   - monitor clinically
   .
   # Acute on Chronic Systolic Heart Failure: Per TTE [**3-10**], EF 15-20% with
   LV dilatation. Cardiologist felt imaging was consistent with a DCM from
   EtOH.  LBBB pattern on ECG present at OSH admission with negative CEs,
   but age unknown.  Goal is to diurese and restart BB, but blood pressure
   has been low.
   - Continue on 7.5 mg IV lopressor QID, restart Carvedilol once
   tolerating PO
   - holding home Torsemide given ARF and then lasix gtt.
   - Holding home ACE given BP
   - Outpatient cardiology follow-up for evaluation for pacemaker
   .
   # Colitis: Etiology unknown. Diarrhea again last night, if persists,
   may consider restarting his home asacol.
   - Hold asacol for now.
   - FU C Diff
   .
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PANCREATITIS, ACUTE
 HYPOTENSION (NOT SHOCK)
 SHOCK, OTHER
 DELIRIUM / CONFUSION
 IMPAIRED SKIN INTEGRITY
 COLITIS, OTHER (NOT CDIFF)
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   hyperlipidemia
 LEUKOCYTOSIS
 HYPERNATREMIA (HIGH SODIUM)
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 CHOLECYSTITIS, CALCULOUS
 ALCOHOL ABUSE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   ICU Care
   Nutrition: Tubefeeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2174-03-22 10:36:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2174-03-22 11:05:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2174-3-21**] 09:58 AM--Patient extubated
   without event.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2174-3-19**] 04:00 PM
   Vancomycin - [**2174-3-19**] 07:51 PM
   Ciprofloxacin - [**2174-3-19**] 10:42 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-21**] 04:13 PM
   Heparin Sodium (Prophylaxis) - [**2174-3-21**] 11:26 PM
   Haloperidol (Haldol) - [**2174-3-22**] 02:00 AM
   Methadone Hydrochloride - [**2174-3-22**] 04:00 AM
   Metoprolol - [**2174-3-22**] 06:00 AM
   Furosemide (Lasix) - [**2174-3-22**] 09:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-22**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 83 (74 - 117) bpm
   BP: 126/78(89) {95/52(64) - 126/82(92)} mmHg
   RR: 29 (11 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
   CVP: 11 (0 - 18)mmHg
   Total In:
                                                                    842 mL
                                                                    589 mL
   PO:
                                                                    210 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    632 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  5,975 mL
                                                                    500 mL
   Urine:
                                                                  5,965 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
                                                                     10 mL
   Balance:
                                                                 -5,133 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///27/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   625 K/uL
   125 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.5 mEq/L
   11 mg/dL
   107 mEq/L
   144 mEq/L
   32.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2174-3-18**]  11:32 PM
                             [**2174-3-19**]  03:26 AM
                             [**2174-3-19**]  01:00 PM
                             [**2174-3-19**]  01:17 PM
                             [**2174-3-19**]  11:33 PM
                             [**2174-3-20**]  06:00 AM
                             [**2174-3-20**]  02:31 PM
                             [**2174-3-20**]  08:35 PM
                             [**2174-3-21**]  01:51 AM
                             [**2174-3-22**]  01:04 AM
   WBC
   9.6
   7.2
   8.3
   8.4
   Hct
   27.4
   29.0
   28.3
   29.5
   32.4
   Plt
   521
   519
   595
   625
   Cr
   1.1
   0.8
   0.8
   0.8
   TCO2
   36
   32
   32
   34
   32
   Glucose
   110
   123
   92
   125
   Other labs: PT / PTT / INR:14.7/27.8/1.3, ALT / AST:[**9-24**], Alk Phos / T
   Bili:53/0.3, Amylase / Lipase:110/149, Differential-Neuts:67.2 %,
   Band:0.0 %, Lymph:23.0 %, Mono:6.0 %, Eos:3.6 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:149 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.4 mg/dL
   Imaging: CXR-Improved lung fields from pre-extubation
   Assessment and Plan
   61 yo male with initial admission with gangenous gallbladder and now
   with successful extubation with sepsis resolving and ability to wean
   venilator support across 2 days.  He is still faced with need to allow
   control of residual sepsis to be completed and will work to support
   patient as altered mental status secondary to toxic/metabolic insult
   resolves.
   1)RESPIRATORY FAILURE-ACUTE
   -Wean O2
   -OOB to chair
   -Incentive Spirometry
   -Continue to Rx congestive heart failure
   2)SEPSIS--In setting fo cholecystitis and intra-abdominal fluid
   collections
He has continued JP drainge but bile leak appears to be
   controlled
   -Will look to surgery on guidance in JP drain management
   -Will look to ERCP to evalute for timing of stent removal and treatment
   3)ETOH Abuse-
   -thiamine
   -Follow for withdrawl
   4)Congestive Heart Failiure-
   -Will return to home dosing for rate control and diuresis as is now
   able to tolerate po intake quite well this morning and are treating
   what is a baseline EF.
   -Ace to return when fluid balance stabilized
   ICU Care
   -Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-3-9**] 07:26 PM
may be able to D/C with adequate
   access of move to PICC line if needed for ABX
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2174-03-23 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Surgery and ERCP both okay with transferring him/calling him out
   - Daughter expressed interest in transfer to [**Hospital1 **]
   - patient with mild agitation/? delirium, written for zyprexa qhs:prn
   - plan to call out to floor vs. transfer to [**Hospital1 **] tomorrow AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-3-22**] 09:56 AM
   Lansoprazole (Prevacid) - [**2174-3-22**] 05:26 PM
   Heparin Sodium (Prophylaxis) - [**2174-3-22**] 05:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-23**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 92 (77 - 113) bpm
   BP: 124/75(85) {95/50(64) - 130/89(96)} mmHg
   RR: 23 (13 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
    CVP: 12 (9 - 13)mmHg
   Total In:
                                                                  1,300 mL
                                                                    372 mL
   PO:
                                                                    960 mL
                                                                    270 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  1,915 mL
                                                                    250 mL
   Urine:
                                                                  1,740 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
                                                                     25 mL
                                                                      5 mL
   Balance:
                                                                   -615 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD, L subclavian in place
   Lungs: No wheezes
   CV: Distant heart sounds, [**2-12**] holosystolic murmur. No rubs or gallops.
   Abdomen:  hypoactive BS, stable abdominal distention, pt does not
   respond/appear in pain to palpation of abdomen. Distal incision site in
   RUQ covered with CDI dressing and packed, no e/o infection
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   714 K/uL
   11.4 g/dL
   97 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.5 mEq/L
   16 mg/dL
   106 mEq/L
   144 mEq/L
   34.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2174-3-19**]  01:00 PM
                             [**2174-3-19**]  01:17 PM
                             [**2174-3-19**]  11:33 PM
                             [**2174-3-20**]  06:00 AM
                             [**2174-3-20**]  02:31 PM
                             [**2174-3-20**]  08:35 PM
                             [**2174-3-21**]  01:51 AM
                             [**2174-3-22**]  01:04 AM
                             [**2174-3-22**]  01:05 PM
                             [**2174-3-23**]  04:01 AM
   WBC
   7.2
   8.3
   8.4
   9.7
   Hct
   29.0
   28.3
   29.5
   32.4
   34.3
   Plt
   [**Telephone/Fax (3) 12016**]14
   Cr
   0.8
   0.8
   0.8
   0.9
   1.0
   TCO2
   32
   32
   34
   32
   Glucose
   123
   92
   125
   175
   97
   Other labs: PT / PTT / INR:14.7/27.8/1.3, ALT / AST:[**9-24**], Alk Phos / T
   Bili:53/0.3, Amylase / Lipase:110/149, Differential-Neuts:67.2 %,
   Band:0.0 %, Lymph:23.0 %, Mono:6.0 %, Eos:3.6 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:149 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.1 mg/dL
   Imaging: CXR [**3-22**]: improvement in pulm vascular status and no e/o pna.
   Microbiology: Cdiff negative.
   Urine cultures negative.
   Blood cultures NGTD.
   Assessment and Plan
   61M with ETOH and cocaine abuse and CHF (EF 15%), transferred from OSH
   s/p open CCY for gangrenous and perforated gall bladder with suspected
   complication of bile leak s/p ERCP and stenting. Admitted for hypoxia
   and hypotension requiring pressor support. Was spiking fevers with no
   clear source of infection, now improving and extubated successfully.
   .
   # Hypotension/Recurrent Fevers: Fever curve downtrending and was
   afebrile overnight.  Most likely infectious source is biliary, but
   fluid collections too small to drain.  No organisms have ever been
   isolated from many cultures/sites.  Stopped meropenem due to possible
   drug rash and also may have contributed to fevers.  His leukocytosis
   has resolved and has no localizing signs.  Dc
d antibiotics [**2174-3-20**].
   - follow cultures
   - follow fever curve
   .
   # Hypoxic Respiratory Failure: Extubated succesfully [**3-21**] and now on 4L
   nasal cannula.  Doing well.
   - Wean O2 as tolerated
   .
   # Anemia: Hct stable today.  Iron studies c/w iron deficiency.
   -Trend HCT
   -Guaiac stool
   .
   # Gangrenous cholecystitis s/p open cholecystectomy complicated by bile
   leak, now with fluid collection on CT: POD 13.  Fluid collections of
   unclear significance.
    -Now off anitbiotics
   - Monitor JP drainage, will confirm with surgery how long this should
   stay in
   - F/U culture data, blood and urine cultures
   - Trend WBC
   .
   #Rash: Resolved. maculopapular trunkal rash noted on evening of [**3-18**]
   after 48 hours administration of Zosyn.  Thought to be drug allergy
   respons, now resolved after stopping antibiotics.
   - monitor clinically
   .
   # Acute on Chronic Systolic Heart Failure: Per TTE [**3-10**], EF 15-20% with
   LV dilatation. Cardiologist felt imaging was consistent with a DCM from
   EtOH.  LBBB pattern on ECG present at OSH admission with negative CEs,
   but age unknown.
   - Patient
s home Carvedilol and Torsemide restarted [**3-22**]
   - Could restart home ACE since BP
s have been stable
   - Outpatient cardiology follow-up for evaluation for pacemaker
   .
   # Colitis: Etiology unknown. Diarrhea again last night but seems to be
   slowing down.  If persists, may consider restarting his home asacol.
   Has been C Diff neg x 3.
   - Hold asacol for now.
   .
   # Hyperlipidemia: Holding home Gemfibrizol given acute hepatic/biliary
   process.
   ICU Care
   Nutrition: Advance diet to clears today, speech and swallow deferred as
   pt was able to take pills and food [**3-22**]
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU, can likely call out vs transfer back to previous
   hospital today vs tomorrow

2174-03-23 09:42:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   bile Leak
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2174-3-22**] 01:02 PM
   -Persistent modest delirium
   -Drainage-15cc in 24 hours
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-3-22**] 09:56 AM
   Lansoprazole (Prevacid) - [**2174-3-22**] 05:26 PM
   Heparin Sodium (Prophylaxis) - [**2174-3-23**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-23**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.4
   HR: 86 (77 - 113) bpm
   BP: 94/62(70) {94/50(64) - 130/89(96)} mmHg
   RR: 28 (13 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
   CVP: 12 (11 - 13)mmHg
   Total In:
                                                                  1,300 mL
                                                                    492 mL
   PO:
                                                                    960 mL
                                                                    390 mL
   TF:
   IVF:
                                                                    340 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  1,915 mL
                                                                    280 mL
   Urine:
                                                                  1,740 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
                                                                     25 mL
                                                                      5 mL
   Balance:
                                                                   -615 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, JP in place
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): nothing--argues he is still on [**Hospital3 **], Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   714 K/uL
   97 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.5 mEq/L
   16 mg/dL
   106 mEq/L
   144 mEq/L
   34.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2174-3-19**]  01:00 PM
                             [**2174-3-19**]  01:17 PM
                             [**2174-3-19**]  11:33 PM
                             [**2174-3-20**]  06:00 AM
                             [**2174-3-20**]  02:31 PM
                             [**2174-3-20**]  08:35 PM
                             [**2174-3-21**]  01:51 AM
                             [**2174-3-22**]  01:04 AM
                             [**2174-3-22**]  01:05 PM
                             [**2174-3-23**]  04:01 AM
   WBC
   7.2
   8.3
   8.4
   9.7
   Hct
   29.0
   28.3
   29.5
   32.4
   34.3
   Plt
   [**Telephone/Fax (3) 12016**]14
   Cr
   0.8
   0.8
   0.8
   0.9
   1.0
   TCO2
   32
   32
   34
   32
   Glucose
   123
   92
   125
   175
   97
   Other labs: PT / PTT / INR:14.7/27.8/1.3, ALT / AST:[**9-24**], Alk Phos / T
   Bili:53/0.3, Amylase / Lipase:110/149, Differential-Neuts:67.2 %,
   Band:0.0 %, Lymph:23.0 %, Mono:6.0 %, Eos:3.6 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:149 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.1 mg/dL
   Imaging: No new
   Assessment and Plan
   61 yo male admit with sepsis, respiratory failure following
   presentation with gangrenous gallbladder and with bile leak corrected
   with stent placement and now with successful extubation.
   1)Respiratory Failure-Resolved
   -Wean O2 as tolerated today
   -OOB and ambulation
   -Will need PT eval for aid in placement
   2)Altered Mental Status
He has delirium persisting
is oriented to year
   and month but not place.  This may represent resolving toxic metabolic
   encephalopathy given continued slow improvement and non-specific exam.
   -D/C sedating medications
   -Follow for EtOH withdrawl
   3)Congestive Heart Failure--Systolic/Chronic
   -Return to outpatient medications
   -Torsemide
   -Carvedilol
   -Will return ACE if able to tolerate
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2174-3-23**] 08:09 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor today
will need to resolve delirium
   prior to D/C if plan is for home
   Total time spent: 34 minutes

2174-03-25 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -No overnight events.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Cephalosporins
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-24**] 08:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-25**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 82 (70 - 94) bpm
   BP: 93/32(48) {72/29(42) - 135/80(93)} mmHg
   RR: 27 (17 - 32) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    634 mL
                                                                    435 mL
   Urine:
                                                                    634 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -634 mL
                                                                   -435 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   GEN: NAD, A+Ox3, but sometimes confused.
   HEENT: NC/AT MMM
   NECK: JVP to angle of jaw
   LUNGS: decreased BS bilaterally without crackles, wheezes
   HEART: RRR No M/r/G
   ABD: Soft NT/ND
   EXTREM: No edema
   NEURO: A+OX 2
   Labs / Radiology
   628 K/uL
   10.6 g/dL
   102 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.8 mEq/L
   29 mg/dL
   104 mEq/L
   139 mEq/L
   32.8 %
   12.1 K/uL
        [image002.jpg]
                             [**2174-3-19**]  11:33 PM
                             [**2174-3-20**]  06:00 AM
                             [**2174-3-20**]  02:31 PM
                             [**2174-3-20**]  08:35 PM
                             [**2174-3-21**]  01:51 AM
                             [**2174-3-22**]  01:04 AM
                             [**2174-3-22**]  01:05 PM
                             [**2174-3-23**]  04:01 AM
                             [**2174-3-24**]  07:23 PM
                             [**2174-3-25**]  03:45 AM
   WBC
   7.2
   8.3
   8.4
   9.7
   12.1
   Hct
   28.3
   29.5
   32.4
   34.3
   32.8
   Plt
   [**Telephone/Fax (3) 12016**]14
   628
   Cr
   0.8
   0.8
   0.8
   0.9
   1.0
   1.4
   1.4
   TCO2
   32
   34
   32
   Glucose
   123
   92
   125
   175
   97
   109
   102
   Other labs: PT / PTT / INR:14.7/27.8/1.3, ALT / AST:[**12-24**], Alk Phos / T
   Bili:61/0.4, Amylase / Lipase:110/149, Differential-Neuts:67.2 %,
   Band:0.0 %, Lymph:23.0 %, Mono:6.0 %, Eos:3.6 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:149 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.1 mg/dL
   Imaging: CXR from [**3-24**]:
   No pulmonary edema or pneumonia. Improved right lower lobe atelectasis.
   Microbiology: None.
   Assessment and Plan
   61yo M with h/o CHF with EF 15%, gangrenous cholecystitis transferred
   back to [**Hospital Unit Name 4**] with likely CHF exacerbation and ARF.
   .
   #. Acute systolic CHF: Patient with known CHF prior to admission with
   EF 15% (preadmission EF of 30%). Reasonable to assume the EF will get
   better now that the sepsis has resolved however he will likely always
   have systolic dysfunction given the preceding cardiomyopathy. Current
   CXR and clincal course consistent with acute CHF exacerbation as
   patient did not get his diuretics yesterday AM, got IVF, and now has
   hypoxia.
   - Continue home meds including torsemide
   - [**Hospital1 **] lytes
   - Monitor I/O and daily weights
   - Wean O2 as able
   - hold ACE inhibitor for now given ARF (Cr 1.3) after one dose of
   lisinopril
   .
   #. ARF: Patient had ARF when first admitted and in septic shock which
   resolved with resolution of shock. Now with ARF again after re-starting
   ACE-I yesterday. FeNa 0.1 suggesting pre-renal azotemia. As this was
   taken AFTER IVF think this is more likely pre-renal from CHF rather
   than hypovolemia - especially since on exam and CXR he seems to not be
   dehydrated.
   - Treat CHF as above
   - Would hold ACE for now
   - Would renally dose meds
   - Would check [**Hospital1 **] lytes, Cr this AM stable at 1.4.
   - Continue coreg and torsemide
   - Will likely need AICD because of low EF which can be done as an
   outpatient and will need to follow up with his primary cardiologist for
   this
   .
   #Leukocytosis: WBC this AM elevated at 12.1. Pt afebrile. Will trend
   for now.
   .
   #. Gangrenous Cholecystitis: Currently resolving, on po diet and
   surgery has signed off with the following recommendations:
   -  wet-to-dry dressing changes [**Hospital1 **] to abdominal wound
   - drain stays in until repeat ERCP
   - can follow up with primary general surgeon for drain removal (or [**Doctor Last Name **]
   if pt prefers)
   - Monitor JP drain output
   .
   #. Colitis: Patient has history of colitis and is on asacol as an
   outpatient.
   - Monitor stool output
   - Continue mesalamine ->may need to be renally dosed
   .
   # COPD: Patient is not currently wheezing to suggest acute COPD
   exacerbation and clinical history more consistent with HF.
   - Continue ipratropium and albuterol nebs
   .
   #. ETOH Abuse:
   - Continue thiamine, folate
   - SW consult on floor
   .
   #. Iron deficiency anemia: Diagnosed in [**Hospital Unit Name 4**] prior to this transfer.
   - Continue iron
   .
   #. Seborrheic Dermatitis:
   - Continue ketoconazole cream
   ICU Care
   Nutrition: Regular diabetic diet.
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-3-24**] 04:37 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  With patient and daughter
   [**Name (NI) 156**] status: Full code
   Disposition: Pending above ->if call out prefer cardiology floor

2174-03-25 10:06:00 Physician Attending Progress Note
Chief Complaint: Hypoxia
   Congestive Heart Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient remained on 6 lpm supplemental oxygen
   -Continued cough seen
   -Torsemide returned and patient with modest negative fluid balance
   -Patient with cough with every sip of water
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Cephalosporins
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-24**] 08:31 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-25**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 80 (70 - 94) bpm
   BP: 98/45(55) {72/29(42) - 135/80(93)} mmHg
   RR: 15 (15 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
                  Total In:
                  240 mL
   PO:
                  240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    634 mL
                                                                    715 mL
   Urine:
                                                                    634 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -634 mL
                                                                   -475 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   628 K/uL
   102 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.8 mEq/L
   29 mg/dL
   104 mEq/L
   139 mEq/L
   32.8 %
   12.1 K/uL
        [image002.jpg]
                             [**2174-3-19**]  11:33 PM
                             [**2174-3-20**]  06:00 AM
                             [**2174-3-20**]  02:31 PM
                             [**2174-3-20**]  08:35 PM
                             [**2174-3-21**]  01:51 AM
                             [**2174-3-22**]  01:04 AM
                             [**2174-3-22**]  01:05 PM
                             [**2174-3-23**]  04:01 AM
                             [**2174-3-24**]  07:23 PM
                             [**2174-3-25**]  03:45 AM
   WBC
   7.2
   8.3
   8.4
   9.7
   12.1
   Hct
   28.3
   29.5
   32.4
   34.3
   32.8
   Plt
   [**Telephone/Fax (3) 12016**]14
   628
   Cr
   0.8
   0.8
   0.8
   0.9
   1.0
   1.4
   1.4
   TCO2
   32
   34
   32
   Glucose
   123
   92
   125
   175
   97
   109
   102
   Other labs: PT / PTT / INR:14.7/27.8/1.3, ALT / AST:[**12-24**], Alk Phos / T
   Bili:61/0.4, Amylase / Lipase:110/149, Differential-Neuts:67.2 %,
   Band:0.0 %, Lymph:23.0 %, Mono:6.0 %, Eos:3.6 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:149 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.1 mg/dL
   Imaging: [**3-24**]--no focal infiltrates or change seen from [**3-22**]
   Assessment and Plan
   61 yo male with history of severe congestive heart
   failure--systolic--acute and chronic and now with hypotension in the
   setting of up-titration of medications requiring fluid bolus has
   resulted in patient with modest volume overload and return to ICU with
   hypoxemia and persistent cough and pulmonary edema.
   1)HYPOXEMIA
this may be modest and persistent hypoxemia with some
   peri-bronchial edema extending into interstitial regions and
   contributing to hypoxia.  We do not have evidence of new pneumonia.  He
   has concern for signfiicant and recurrent aspiration events with PO
   intake and this combined with edema may be driving persistent hypoxia.
   -Wean O2 as tolerated
   -Supervise for possible aspiration
   -Will need continued O2 support
   -Will need incentive spirometry to work to maintain adequate air-space
   patency.
   2)Congestive Heart Failure
Systolic, Severe acute and chronic
   -Coreg
25mg [**Hospital1 **]
   -Torsemide 40mg
   -ACE-I held
   -Heart failure consult to be considered if with persistent failure
 ALCOHOL ABUSE
no evidence of withdrawl
   -Follow exam
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)-Resolved
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2174-3-24**] 03:25 PM
   20 Gauge - [**2174-3-25**] 08:26 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2174-03-26 07:04:00 Physician Resident Progress Note
Chief Complaint: CC: Hypotension
   [**Hospital Unit Name 4**] Admission: Hypotension
   24 Hour Events:
   - diuresing with torsemide, received another 40mg IV Lasix at 1AM
   - sputum cx ordered --> returned oral contaminant, so induced sputum
   ordered
   - S&S consulted --> thin liquids, regular solids, whole pills
   - Nutrition consulted --> supplements TID
   - some pus-like drainage seen in open portion of wound, getting [**Hospital1 **] wet
   to dry dressing changes, but surgery took a look and felt it looked ok
   - PT consulted
   - cardiology consult for hypotension to 60's --> switch coreg to
   lopressor
   - updated family
   - consider call out to cardiology floor when ready
 SPUTUM CULTURE - At [**2174-3-25**] 11:00 AM
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Cephalosporins
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-3-25**] 08:00 PM
   Furosemide (Lasix) - [**2174-3-26**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-26**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.3
C (97.4
   HR: 82 (76 - 94) bpm
   BP: 97/69(75) {66/32(44) - 110/95(98)} mmHg
   RR: 17 (12 - 33) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
                  Total In:
                                                                  1,215 mL
                                                                    120 mL
   PO:
                                                                    965 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                  1,320 mL
   Urine:
                                                                  1,800 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -585 mL
                                                                 -1,200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): person place and
   time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   633 K/uL
   10.9 g/dL
   102 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.8 mEq/L
   21 mg/dL
   103 mEq/L
   139 mEq/L
   33.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2174-3-20**]  02:31 PM
                             [**2174-3-20**]  08:35 PM
                             [**2174-3-21**]  01:51 AM
                             [**2174-3-22**]  01:04 AM
                             [**2174-3-22**]  01:05 PM
                             [**2174-3-23**]  04:01 AM
                             [**2174-3-24**]  07:23 PM
                             [**2174-3-25**]  03:45 AM
                             [**2174-3-25**]  02:56 PM
                             [**2174-3-26**]  02:31 AM
   WBC
   8.3
   8.4
   9.7
   12.1
   10.1
   Hct
   29.5
   32.4
   34.3
   32.8
   33.6
   Plt
   595
   625
   714
   628
   633
   Cr
   0.8
   0.8
   0.9
   1.0
   1.4
   1.4
   1.4
   1.1
   TCO2
   34
   32
   Glucose
   92
   125
   175
   97
   109
   102
   129
   102
   Other labs: PT / PTT / INR:14.6/25.8/1.3, ALT / AST:18/21, Alk Phos / T
   Bili:73/0.5, Amylase / Lipase:110/149, Differential-Neuts:67.2 %,
   Band:0.0 %, Lymph:23.0 %, Mono:6.0 %, Eos:3.6 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:143 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Imaging: CXR AP portable [**3-25**]:
   FINDINGS: As compared to the previous examination, there is a slight
   increase
   in extent of the right lower lobe atelectasis but no evidence of
   pneumonia or pulmonary edema. Borderline size of the cardiac
   silhouette, no evidence of
   pleural effusions.
   Microbiology: [**2174-3-25**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL INPATIENT
   [**2174-3-21**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   Assessment and Plan
   61yo M with h/o CHF with EF 15%, gangrenous cholecystitis transferred
   back to [**Hospital Unit Name 4**] with likely CHF exacerbation and ARF.
   .
   #. Acute systolic CHF: Patient with known CHF prior to admission with
   EF 15% (preadmission EF of 30%). Reasonable to assume the EF will get
   better now that the sepsis has resolved however he will likely always
   have systolic dysfunction given the preceding cardiomyopathy. Current
   CXR and clincal course consistent with acute CHF exacerbation as
   patient did not get his diuretics yesterday AM, got IVF, and now has
   hypoxia.
   - Continue home meds including torsemide
   - [**Hospital1 **] lytes
   - Monitor I/O and daily weights
   - Wean O2 as able
   - hold ACE inhibitor for now given ARF (Cr 1.3) after one dose of
   lisinopril
   .
   #. ARF: Patient had ARF when first admitted and in septic shock which
   resolved with resolution of shock. Now with ARF again after re-starting
   ACE-I yesterday. FeNa 0.1 suggesting pre-renal azotemia. As this was
   taken AFTER IVF think this is more likely pre-renal from CHF rather
   than hypovolemia - especially since on exam and CXR he seems to not be
   dehydrated.
   - Treat CHF as above
   - Would hold ACE for now
   - Would renally dose meds
   - Would check [**Hospital1 **] lytes, Cr this AM stable at 1.4.
   - Continue coreg and torsemide
   - Will likely need AICD because of low EF which can be done as an
   outpatient and will need to follow up with his primary cardiologist for
   this
   .
   #Leukocytosis: WBC this AM elevated at 12.1. Pt afebrile. Will trend
   for now.
   .
   #. Gangrenous Cholecystitis: Currently resolving, on po diet and
   surgery has signed off with the following recommendations:
   -  wet-to-dry dressing changes [**Hospital1 **] to abdominal wound
   - drain stays in until repeat ERCP
   - can follow up with primary general surgeon for drain removal (or [**Doctor Last Name **]
   if pt prefers)
   - Monitor JP drain output
   .
   #. Colitis: Patient has history of colitis and is on asacol as an
   outpatient.
   - Monitor stool output
   - Continue mesalamine ->may need to be renally dosed
   .
   # COPD: Patient is not currently wheezing to suggest acute COPD
   exacerbation and clinical history more consistent with HF.
   - Continue ipratropium and albuterol nebs
   .
   #. ETOH Abuse:
   - Continue thiamine, folate
   - SW consult on floor
   .
   #. Iron deficiency anemia: Diagnosed in [**Hospital Unit Name 4**] prior to this transfer.
   - Continue iron
   .
   #. Seborrheic Dermatitis:
   - Continue ketoconazole cream
   ICU Care
   Nutrition:
   Comments: low sodium/consistent carbohydrate
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-3-25**] 08:26 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2174-03-26 10:50:00 Physician Attending Progress Note
Chief Complaint: hypotension, hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2174-3-25**] 11:00 AM
   Restarted on torsemide, also received IV lasix at 1 am
   Coreg changed to lopressor as per cardiology recommendations
   Confortable sitting up in bed on rounds
   Continues on 6 L NC
   Minimal cough, clear phlegm
   Had oatmeal this am then had emesis; states he has not been feeling
   nauseous but didn't like the oatmeal.  No abdominal pain.
   History obtained from Patient
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Cephalosporins
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-3-26**] 02:00 AM
   Lansoprazole (Prevacid) - [**2174-3-26**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2174-3-26**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Emesis
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2174-3-26**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36
C (96.8
   HR: 76 (76 - 94) bpm
   BP: 98/61(70) {66/33(44) - 110/95(98)} mmHg
   RR: 28 (12 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
                  Total In:
                                                                  1,215 mL
                                                                    370 mL
   PO:
                                                                    965 mL
                                                                    370 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                  1,440 mL
   Urine:
                                                                  1,800 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -585 mL
                                                                 -1,070 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : ), occasional end
   expiratory wheeze
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   633 K/uL
   102 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.8 mEq/L
   21 mg/dL
   103 mEq/L
   139 mEq/L
   33.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2174-3-20**]  02:31 PM
                             [**2174-3-20**]  08:35 PM
                             [**2174-3-21**]  01:51 AM
                             [**2174-3-22**]  01:04 AM
                             [**2174-3-22**]  01:05 PM
                             [**2174-3-23**]  04:01 AM
                             [**2174-3-24**]  07:23 PM
                             [**2174-3-25**]  03:45 AM
                             [**2174-3-25**]  02:56 PM
                             [**2174-3-26**]  02:31 AM
   WBC
   8.3
   8.4
   9.7
   12.1
   10.1
   Hct
   29.5
   32.4
   34.3
   32.8
   33.6
   Plt
   595
   625
   714
   628
   633
   Cr
   0.8
   0.8
   0.9
   1.0
   1.4
   1.4
   1.4
   1.1
   TCO2
   34
   32
   Glucose
   92
   125
   175
   97
   109
   102
   129
   102
   Other labs: PT / PTT / INR:14.6/25.8/1.3, ALT / AST:18/21, Alk Phos / T
   Bili:73/0.5, Amylase / Lipase:110/149, Differential-Neuts:67.2 %,
   Band:0.0 %, Lymph:23.0 %, Mono:6.0 %, Eos:3.6 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:143 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Imaging: CXR:  mild increased IS markings
   Assessment and Plan
 HYPOXEMIA:  Only occasional cough, clear phlegm.  CXR without
   infiltrates.  Occ. wheeze on exam.  Agree with bronchodilators.  Mild
   CHF, now back on diuresis, received extra dose of lasix.  Plan to
   restart ACE I, start with low dose.  Follow BUN/Cr.  Weaning Fi02 as
   tolerated.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PANCREATITIS, ACUTE: Had been tolerating diet.  Vomited oatmeal this
   morning.   Exam benign.  Will continue diet as tolerated.  If recurrent
   emesis will check repeat labs to be sure there is no exacerbation of
   underlying
 HYPOTENSION (NOT SHOCK):  Seems to be at his baseline looking back at
   course in the ICU previously.  Trying to optimize CHF meds to improve
   forward flow.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Cr improved from
   yesterday.  Renal insufficiency secondary to worsening CHF, poor
   forward flow.
 LEUKOCYTOSIS: Unclear etiology, ? stress.  No localizing
   signs/symptoms of infection.  Check UA.  Will plan to culutre broadly
   if he shows further hemodynamic instability ableit does not appear
   toxic on exam.  Low threshold to start abx if unstable.

 HEART FAILURE (CHF), SYSTOLIC, CHRONIC: As above
   Else agree with detailed assessment and plan in medical ICU resident's
   note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-3-25**] 08:26 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2174-03-27 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - occasional hypotension to 70s systolic, asymptomatic.  bolused 500
   ccs for hypotension, but remained negative XXX
   - had to d/c beta-blocker and ACEI due to low BP
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Cephalosporins
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-26**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2174-3-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-27**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 86 (76 - 95) bpm
   BP: 82/56(63) {70/35(50) - 113/71(79)} mmHg
   RR: 13 (12 - 34) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.2 kg (admission): 77.1 kg
   Height: 70 Inch
                  Total In:
                                                                  1,170 mL
                                                                    150 mL
   PO:
                                                                    670 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                    210 mL
   Urine:
                                                                  2,655 mL
                                                                    210 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,685 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular:  (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Labs / Radiology
   606 K/uL
   11.4 g/dL
   99 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.8 mEq/L
   18 mg/dL
   100 mEq/L
   141 mEq/L
   35.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2174-3-21**]  01:51 AM
                             [**2174-3-22**]  01:04 AM
                             [**2174-3-22**]  01:05 PM
                             [**2174-3-23**]  04:01 AM
                             [**2174-3-24**]  07:23 PM
                             [**2174-3-25**]  03:45 AM
                             [**2174-3-25**]  02:56 PM
                             [**2174-3-26**]  02:31 AM
                             [**2174-3-26**]  05:36 PM
                             [**2174-3-27**]  04:50 AM
   WBC
   8.3
   8.4
   9.7
   12.1
   10.1
   8.6
   Hct
   29.5
   32.4
   34.3
   32.8
   33.6
   35.5
   Plt
   595
   625
   714
   [**Telephone/Fax (3) 12115**]
   Cr
   0.8
   0.8
   0.9
   1.0
   1.4
   1.4
   1.4
   1.1
   1.3
   1.1
   Glucose
   92
   125
   175
   97
   109
   102
   129
   102
   103
   99
   Other labs: PT / PTT / INR:14.6/25.8/1.3, ALT / AST:18/21, Alk Phos / T
   Bili:73/0.5, Amylase / Lipase:110/149, Differential-Neuts:59.8 %,
   Band:0.0 %, Lymph:22.6 %, Mono:9.1 %, Eos:8.3 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:143 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.7 mg/dL
   Imaging: CXR: no sig interval change.
   Microbiology: Urine culture pending.
   Assessment and Plan
   61yo M with h/o CHF with EF 15%, gangrenous cholecystitis transferred
   back to [**Hospital Unit Name 4**] with likely CHF exacerbation and ARF.
   .
   #. Hypoxia:  likely due to CHF + baseline COPD.  CXR yesterday am with
   vascular congestion.  Will continue to diurese, goal negative 1 to 2
   liters, with his home torsemide, and additional lasix as necessary.
   Appreciate cardiology input.
   - Continue home meds including torsemide
   - [**Hospital1 **] lytes
   - Monitor I/O and daily weights
   - Wean O2 as able
   .
   #. CHF
 continue metoprolol, torsemide, additional diuresis as above.
   .
   #. ARF: Improved
   - Treat CHF as above
   - renally dose meds
   - Would check [**Hospital1 **] lytes, Cr this AM improved at 1.1.
   - Continue coreg and torsemide
   - Will likely need AICD because of low EF which can be done as an
   outpatient and will need to follow up with his primary cardiologist for
   this.
   .
   #Leukocytosis: Resolved. WBC this AM 8.6. Pt afebrile. Will trend.
   -          trend WBC
   .
   #. Gangrenous Cholecystitis: Currently resolving, on po diet and
   surgery has signed off with the following recommendations:
   -  wet-to-dry dressing changes [**Hospital1 **] to abdominal wound
   - drain stays in until repeat ERCP
   - can follow up with primary general surgeon for drain removal (or [**Doctor Last Name **]
   if pt prefers)
   - Monitor JP drain output
   .
   #. Colitis: Patient has history of colitis and is on asacol as an
   outpatient.
   - Monitor stool output
   - Continue mesalamine ->may need to be renally dosed
   .
   # COPD: Patient is not currently wheezing to suggest acute COPD
   exacerbation and clinical history more consistent with HF.
   -          Continue ipratropium and albuterol nebs
   -          Consider starting [**Last Name (un) **]/steroid inhaler if she remains
   hypoxic with no e/o infection
   .
   #. ETOH Abuse:
   - Continue thiamine, folate
   - SW
   .
   #. Iron deficiency anemia: Diagnosed in [**Hospital Unit Name 4**] prior to this transfer.
   - Continue iron
   .
   #. Seborrheic Dermatitis:
   - Continue ketoconazole cream
   ICU Care
   Nutrition:
   Comments: low sodium/consistent carbohydrate
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-3-25**] 08:26 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   ICU ATTENDING ADDENDUM
   I saw and examined the patient with the medical ICU residents, the
   assessment and plan was discussed and is detailed above.  I would add
   and emphasize the following.
   Patient has been hemodynamically stable.  No further emesis, tolerated
   breakfast this morning.  No abdominal pain.  Diarrhea. Denies SOB,
   cough.  SaO2 95% on 6L NC, desats to 91% on 4L.
   Lungs with prolonged expiratory phase, occasional wheeze.  Crackles at
   bases clear with deep breathing.
   Abdomen soft, good bowel sounds
   CXR without CHF, infiltrates
   [**Month (only) 8**] benefit from further optimization of COPD regimen, will give short
   course of prednisone and initiate ICS, continue bronchodilators.
   Maintain even I/Os to slightly negative.  Agree with detailed plan as
   above.
   Time spent 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2174-3-27**] 12:29 ------

2174-03-28 07:03:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath, hypoxia
   24 Hour Events:
   - Patient with occasional hypotension to 70's systolic, asymptomatic.
   Bolused 500 cc's for hypotension, but remained negative 475cc
   - D/c'd Lopressor and ACE due to low BP
   - Patient still had significant oxygen requirement despite being
   negative ~2.5L since re-admit to the unit so started on 40 mg daily PO
   Prednisone and Fluticasone INH, O2 requirement decreased from 6L to 4L.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Cephalosporins
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-27**] 09:09 AM
   Heparin Sodium (Prophylaxis) - [**2174-3-28**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-28**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.7
   HR: 95 (75 - 104) bpm
   BP: 87/66(71) {58/39(35) - 174/133(142)} mmHg
   RR: 14 (11 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 77.1 kg
   Height: 70 Inch
                  Total In:
                                                                    870 mL
                                                                    150 mL
   PO:
                                                                    870 mL
                                                                    150 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    295 mL
   Urine:
                                                                  1,345 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -475 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Regular rate & rhythm with PVC
s, normal S1 & S2, no
   audible murmurs
   Peripheral Vascular: 2+ dorsalis pedis pulses b/l
   Respiratory / Chest: Clear to auscultation bilaterally
   Abdominal: Soft, Non-tender, Non-distended, bowel sounds present
   Extremities: No lower extremity edema, cyanosis, or clubbing
   Labs / Radiology
   594 K/uL
   12.4 g/dL
   129 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.0 mEq/L
   21 mg/dL
   98 mEq/L
   140 mEq/L
   39.4 %
   7.7 K/uL
        [image002.jpg]
                             [**2174-3-22**]  01:04 AM
                             [**2174-3-22**]  01:05 PM
                             [**2174-3-23**]  04:01 AM
                             [**2174-3-24**]  07:23 PM
                             [**2174-3-25**]  03:45 AM
                             [**2174-3-25**]  02:56 PM
                             [**2174-3-26**]  02:31 AM
                             [**2174-3-26**]  05:36 PM
                             [**2174-3-27**]  04:50 AM
                             [**2174-3-28**]  03:48 AM
   WBC
   8.4
   9.7
   12.1
   10.1
   8.6
   7.7
   Hct
   32.4
   34.3
   32.8
   33.6
   35.5
   39.4
   Plt
   625
   714
   628
   633
   606
   594
   Cr
   0.8
   0.9
   1.0
   1.4
   1.4
   1.4
   1.1
   1.3
   1.1
   1.1
   Glucose
   125
   175
   97
   109
   102
   129
   102
   103
   99
   129
   Other labs: PT / PTT / INR:14.6/25.8/1.3, ALT / AST:18/21, Alk Phos / T
   Bili:73/0.5, Amylase / Lipase:110/149, Differential-Neuts:59.8 %,
   Band:0.0 %, Lymph:22.6 %, Mono:9.1 %, Eos:8.3 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:143 IU/L, Ca++:9.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.8 mg/dL
   Imaging: CXR [**3-27**]: FINDINGS: As compared to the previous examination,
   the lung volumes have improved, likely to reflect improved ventilation.
   The pre-existing signs suggestive of overhydration have completely
   resolved. Mild atelectasis at the
   bases of the right upper lobe persists.
   Moderate cardiomegaly. No evidence of focal parenchymal opacities
   suggesting pneumonia. No pleural effusions. No mediastinal
   abnormalities.
   Microbiology: Urine culture [**3-26**]: pending
   C. diff [**3-27**]: pending
   Assessment and Plan
   61yo M with h/o CHF with EF 15%, gangrenous cholecystitis transferred
   back to [**Hospital Unit Name 4**] with likely CHF exacerbation and ARF.
   #. Hypoxia: Likely due to sCHF + baseline COPD.  Currently on 4L O2 by
   NC. CXR yesterday demonstrates resolution of vascular congestion seen
   prior.  Will continue to diurese, goal negative 1L, with home torsemide
   and additional Lasix PRN.  Appreciate cardiology input.
   - Continue home meds including Torsemide
   - COPD regimen as below
   - [**Hospital1 **] lytes
   - Monitor I/O and daily weights
   - Wean O2 as able
   #. CHF:  EF 15%. Has refused AICD in the past.
   - Continue Torsemide, Lopressor & Lasix PRN as tolerates. CXR from [**3-27**]
   indicates resolution of fluid overload.
   # COPD: Patient is not currently wheezing to suggest acute COPD
   exacerbation and clinical history more consistent with HF, but no
   improvement in oxygen requirement after diuresis suggestive of second
   process despite clear CXR.
   - Continue Albuterol-Ipratropium INH q6H
   - Continue Fluticasone INH
   - Continue Prednisone 40mg PO daily
   #. ARF: Improved. Cr 1.1 today.
   - Treat CHF as above
   - Renally dose meds
   - [**Hospital1 **] lytes
   - Continue Torsemide & Lopressor as HR tolerates
   #Leukocytosis: Resolved. WBC this AM 7.7. Afebrile.
   - Trend WBC
   #. Gangrenous Cholecystitis: Currently resolving, on PO diet and
   surgery has signed off with the following recommendations:
   -  Wet-to-dry dressing changes [**Hospital1 **] to abdominal wound
   - JP drain in until repeat ERCP
   - can follow up with primary general surgeon for drain removal (or [**Doctor Last Name **]
   if pt prefers)
   - Monitor JP drain output
   #. Colitis: Patient has history of colitis and is on Asacol as an
   outpatient.
   - Continue Mesalamine 1200mg PO TID
   - Continue stool output
   #. ETOH/Cocaine Abuse:
   - Continue Thiamine, Folate
   - SW
   #. Iron deficiency anemia: Diagnosed during this admission.
   - Continue Ferrous Sulfate 325mg PO daily
   #. Seborrheic Dermatitis:
   - Continue Ketoconazole cream
   ICU Care
   Nutrition: Cardiac/diabetic diet
   Glycemic Control:  Insulin sliding scale
   Lines:
   20 Gauge - [**2174-3-25**] 08:26 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient & patient
s daughter
   [**Name (NI) 156**] status: Full code
   Disposition: To cardiology pending decreased O2 requirement

2174-03-28 11:26:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Congestive Heart Failure--Acute and Chronic systolic
   Chronic Obstructive  Pulmonary Disease
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with increased bronchodilator therapy and some improvement in
   oxygenation with mild negative fluid balance
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Cephalosporins
   Fever/Chills;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2174-3-28**] 08:32 AM
   Heparin Sodium (Prophylaxis) - [**2174-3-28**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-3-28**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**76**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 89 (75 - 104) bpm
   BP: 115/73(84) {58/39(35) - 126/99(106)} mmHg
   RR: 23 (11 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.2 kg (admission): 77.1 kg
   Height: 70 Inch
                  Total In:
                                                                    870 mL
                                                                    830 mL
   PO:
                                                                    870 mL
                                                                    830 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    755 mL
   Urine:
                                                                  1,345 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -475 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   594 K/uL
   129 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.0 mEq/L
   21 mg/dL
   98 mEq/L
   140 mEq/L
   39.4 %
   7.7 K/uL
        [image002.jpg]
                             [**2174-3-22**]  01:04 AM
                             [**2174-3-22**]  01:05 PM
                             [**2174-3-23**]  04:01 AM
                             [**2174-3-24**]  07:23 PM
                             [**2174-3-25**]  03:45 AM
                             [**2174-3-25**]  02:56 PM
                             [**2174-3-26**]  02:31 AM
                             [**2174-3-26**]  05:36 PM
                             [**2174-3-27**]  04:50 AM
                             [**2174-3-28**]  03:48 AM
   WBC
   8.4
   9.7
   12.1
   10.1
   8.6
   7.7
   Hct
   32.4
   34.3
   32.8
   33.6
   35.5
   39.4
   Plt
   625
   714
   628
   633
   606
   594
   Cr
   0.8
   0.9
   1.0
   1.4
   1.4
   1.4
   1.1
   1.3
   1.1
   1.1
   Glucose
   125
   175
   97
   109
   102
   129
   102
   103
   99
   129
   Other labs: PT / PTT / INR:14.6/25.8/1.3, ALT / AST:18/21, Alk Phos / T
   Bili:73/0.5, Amylase / Lipase:110/149, Differential-Neuts:59.8 %,
   Band:0.0 %, Lymph:22.6 %, Mono:9.1 %, Eos:8.3 %, Lactic Acid:0.7
   mmol/L, Albumin:3.1 g/dL, LDH:143 IU/L, Ca++:9.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.8 mg/dL
   Imaging: CXR--Improved lung expansion and decreased pulmonary edema.
   Microbiology: Urine Culture-Pending
   C. Diff--Pending
   Assessment and Plan
   61 yo male with chronic systolic heart failure and initial admission
   with sepsis in the setting of gangenous galllbladder and now has
   persistent congestive heart failure and has increased Rx for
   obstructive lung disease in combination with work to stabilize
   congestive heart failure.  He has improved CXR findings and capacity to
   maintain stable BP across time as we have moved to slight negative
   fluild balance and clinically over past days we have seen an improvment
   in oxygenation with increased Rx for chronic obstructive lung disease.
   Congestive Heart Failure-
   -Torsemide
   -Carvedilol at 3.125 to continue
   -AICD refused in past and will need follow up evaluation to consider
   placement
   -Will need to consider inotrope therapy with Digoxin but will look to
   cardiology for input
if unable to tolerate increased activity will have
   to consider digoxin
   -Baseline SBP has been approximately 80-85
   Chronic Obstructive Lung Disease-
   -Prednisone 40mg in place
will discontinue at this time as we have
   little evidence of significant and persistent bronchospasm
   ICU Care
   Nutrition: PO intake
   Glycemic Control:
   Lines:
   20 Gauge - [**2174-3-25**] 08:26 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
TO cardiology floor
   Total time spent: 35 minutes